2160-08-22 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**8-19**] TM trial @OSH showed ABG demonstrating hypercarbia and hypoxia.
   - Stopped vanco
   - Mini BAL done, results pending --> NO POLYMORPHONUCLEAR LEUKOCYTES
   SEEN.  NO MICROORGANISMS SEEN.
   - [**2149**] CABG --> LIMA to diag, SVG-diag, SVG-PDA, SVG-OM
   - Pulm recs - agree with d/c vanco, diurese, and CT chest.
   - A-line placed
   - Pt had episode of chest discomfort around 4:30pm, then again around
   8:30 pm. EKGs obtained show no change from prior, and episodes resolved
   spontaneously without intervention. Husband felt significant anxiety
   component. Pt given 0.5 mg Ativan in the evening with very good effect.
   CT CHEST: Diffuse ground-glass and interlobular septal thickening with
   focal areas of consolidation and a small left pleural
   effusion.Particularly in the presence of extensive but moderate
   mediastinal and hilar lymphadenopathy, increased since earlier studies,
   the appearance suggests an infectious cause; which could include
   atypical causes such as viral or mycoplasmal infection. Other causes
   including superimposed pulmonary edema, diffuse hemorrhage, or ARDS are
   additional differential considerations.
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-22**] 06:00 AM
   Lorazepam (Ativan) - [**2160-8-22**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-22**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 70 (62 - 75) bpm
   BP: 107/40(61) {104/40(59) - 133/52(77)} mmHg
   RR: 31 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 65.3 kg
   Height: 64 Inch
             Total In:
                                                                  1,072 mL
                                                                    427 mL
   PO:
             TF:
                                                                    190 mL
                                                                    203 mL
   IVF:
                                                                    262 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,479 mL
                                                                    260 mL
   Urine:
                                                                  2,479 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,407 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 363 (353 - 476) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 140
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.49/47/114/33/11
   Ve: 9.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   GENERAL: WDWN F with trach in place, in NAD.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple with JVP just above clavicle while sitting up. Assessment
   partially obstructed by trach device.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.
   LUNGS: No chest wall deformities. Coarse breath sounds with rhonchi
   bilaterally. Diffuse expiratory wheezes bilaterally.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Warm, well perfused. 1+ LE edema bilaterally.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   NEURO: Interactable. 5/5 strength of LUE and LLE. Unable to move RLE.
   3/5 strength in RUE. [**1-1**]+ reflexes bilaterally.
   Labs / Radiology
   219 K/uL
   8.1 g/dL
   150 mg/dL
   0.6 mg/dL
   33 mEq/L
   5.2 mEq/L
   26 mg/dL
   94 mEq/L
   134 mEq/L
   24.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2160-8-21**]  12:19 AM
                             [**2160-8-21**]  03:44 AM
                             [**2160-8-21**]  01:59 PM
                             [**2160-8-21**]  04:50 PM
                             [**2160-8-21**]  05:44 PM
                             [**2160-8-22**]  04:06 AM
                             [**2160-8-22**]  04:19 AM
   WBC
   12.3
   13.2
   8.5
   Hct
   24.8
   25.1
   24.0
   Plt
   196
   208
   219
   Cr
   0.5
   0.5
   0.5
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   39
   36
   37
   Glucose
   193
   141
   107
   150
   Other labs: PT / PTT / INR:12.0/25.8/1.0, CK / CKMB /
   Troponin-T:20//<0.01, Lactic Acid:0.8 mmol/L, Ca++:8.3 mg/dL, Mg++:2.6
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning for ischemic etiology.
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. This is unlikely in
   stent thrombosis given negative cardiac enzymes at OSH. Admission EKG
   looks unchanged from baseline. However, EKG on transfer shows diffuse
   TWI, with ST depressions in V2-V6, with ST elevations in aVR.  Patient
   appears slightly volume overloaded, which certainly could be secondary
   to cardiac ischemia.
   - Chest pain yesterday afternoon
 no enzyme leak, ECG unchanged
   likely anxiety component, relieved with Ativan
   - Trend CEs
 continue to be negative
   - Will discuss potential cath today
   - Carvedilol 25mg po bid
   - ASA 325mg mg po daily
   - Plavix 75mg po daily
   - Lisinopril 10mg po daily
   - Atorvastatin 80mg
   - SL nitro PRN CP
   .
   # PUMP:  Systolic Congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  [**Name13 (STitle) **] currently appears mild fluid
   overloaded. Though JVP difficult to assess given ventilatory support
   and trach collar. LE only have 1+ edema bilaterally. Crackles and
   wheezes bilaterally. Unclear cause of this exacerbation. Differential
   includes ischemia.
   - Lasix 40mg IV daily, Lasix 20 po bid - titrate to UO goal 500cc/day
   - Continue lisinopril, carvedilol
   - Rule out MI as per above
   - Obtain OSH Echo imaging on CD
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Respiratory failure: Patient apparently has bilateral infiltrates
   per OSH records with multiple sputum cultures + for MRSA with 50,000
   colonies. Differential includes pneumonia vs. fluid overload from CHF
   vs. ARDS.  Given elevated BNP, with clinical signs of mild fluid
   overload, and decreased systolic function seen on echo, it's hard to
   confirm diagnosis of ARDS [**12-31**] chronic aspiration. Pulm consulted and
   believes respiratory failure [**12-31**] fluid overload from HF. Chest CT read
   as likely infectious cause with possible superimposed pulmonary edema,
   diffuse hemorrhage, or ARDS.
   - Continue pressure support as patient tolerates
   - D/C
d Vancomycin IV  per pulm (pt had gotten 16d treatment)
   - D/C
d solumedrol that pt was transferred from OSH with
   - f/u sputum cultures, blood cultures
   - diurese with 40mg IV lasix daily -consider [**Hospital1 **] for goal UO 500cc/day
   - continue albuterol and ipratropium PRN shortness of breath
   - AM CXR
   .
   #  Diffuse T wave inversions: Differential includes cardiac ischemia,
   cerebrovascular injury, or cardiomyopathy.  Given history of SAH, and
   recently starting plavix, exacerbation of prior head bleed is a
   possibility. Patient's neurologic exam is focal given prior CVA, but at
   her baseline. OSH Head CT on [**8-20**] showed no intracranial hemorrhage or
   mass.
   -obtain OSH CT head imaging
   -rule out ischemia, as per above
   .
   #  Normocytic anemia: HCT 24.8.  Patient received 1u PRBCs today.
   Unclear what admission HCT was initially. Baseline from [**Month (only) 435**]
   hospitalization here was 26-28. Iron 49, Ferritin 1828, TIBC 176
   anemia of chronic disease picture with extremely high ferritin.
   -guaiac stools
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -Pain control with morphine and percocet, per prior regimen
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis: Continue keppra
   .
   FEN:  G tube in place -Glucerna 1.0 tube feeds at goal rate 55cc/L +
   150 free H2O [**Hospital1 **].
   .
   ACCESS: R subclavian placed at OSH on [**8-20**]
   Foley catheter in place
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SQ
   -Pain management with morphine
   -Bowel regimen with  docusate
   .
   CODE: Presumed full -will need to find out who HCP is
   .
   COMM: unknown at this time
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2160-8-22**] 02:17 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-21**] 12:10 AM
   Arterial Line - [**2160-8-21**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Add: During [**Year (4 digits) 2585**] at 12pm  Pt noted to be febrile, increasingly
   somnolment, also w/ BP 90s/30s. Concerning for septic picture given CT
   findings in chest. Started Vanc/Cefepime/Cipro for broad coverage. CXR
   pending. Blood cx, pending, sputum cx from mini BAL negative up to this
   point.  After discussion on [**Last Name (LF) 2585**], [**First Name3 (LF) **] also plan for Pt to go to
   cardiac cath today to evaluate potential contribution of
   ischemia/elevated filling pressures to ongoing pulmonary issues.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   critically ill due to hypoxic respiratory failure, sepsis, coronary
   artery disease, ventilated.
   Date of service 9/25/9 at 10am.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2160-9-1**] 09:09 ------

2160-08-23 07:36:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
 FEVER - 101.2
F - [**2160-8-22**] 08:00 AM
   pt had increased somnolence yesterday, concern for sepsis vs.
   intracranial process (has had recent ICH)
   CT head showed increased ventriculomegaly from [**7-6**]
   Neuro and neurosurg consulted -> scheduled for drain placement this
   morning -> neurosurg rec'd holding plavix, giving bag of plts this
   morning prior to case
   hypotensive overnight, SBPs 70s, MAP 40s -> given 500 cc bolus,
   appropriate response
   worsening resp status this AM, hypoxemia progressing, increasing PEEP
   and FiO2, serial ABGs
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical [**Name2 (NI) 10312**]
   (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Cefipime - [**2160-8-23**] 12:10 AM
   Ciprofloxacin - [**2160-8-23**] 02:30 AM
   Vancomycin - [**2160-8-23**] 04:50 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2160-8-23**] 05:44 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-23**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   denies pain, remainder of history difficult [**12-31**] trach
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-23**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.8
C (98.3
   HR: 78 (68 - 92) bpm
   BP: 128/45(73) {84/28(44) - 145/49(80)} mmHg
   RR: 19 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.3 kg (admission): 65.3 kg
   Height: 64 Inch
           Total In:
                                                                  1,782 mL
                                                                  1,140 mL
   PO:
           TF:
                                                                    891 mL
                                                                     14 mL
   IVF:
                                                                    740 mL
                                                                    998 mL
   Blood products:
   128 mL
   Total out:
                                                                  1,580 mL
                                                                    220 mL
   Urine:
                                                                  1,580 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    202 mL
                                                                    920 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 453 (345 - 493) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 23 cmH2O
   SpO2: 93%
   ABG: 7.47/43/62/31/6
   Ve: 10.3 L/min
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Well nourished, Anxious, tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic),
   difficult to auscultate over vent
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   anteriorly, Wheezes : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more alert this
   AM
   Labs / Radiology
   182 K/uL
   7.2 g/dL
   244 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.7 mEq/L
   25 mg/dL
   96 mEq/L
   133 mEq/L
   21.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2160-8-21**]  04:50 PM
                             [**2160-8-21**]  05:44 PM
                             [**2160-8-22**]  04:06 AM
                             [**2160-8-22**]  04:19 AM
                             [**2160-8-22**]  09:34 AM
                             [**2160-8-22**]  12:13 PM
                             [**2160-8-22**]  08:33 PM
                             [**2160-8-23**]  04:41 AM
                             [**2160-8-23**]  04:57 AM
                             [**2160-8-23**]  06:33 AM
   WBC
   8.5
   6.6
   Hct
   24.0
   21.9
   Plt
   219
   182
   Cr
   0.5
   0.6
   0.5
   TCO2
   36
   37
   37
   35
   34
   33
   32
   Glucose
   107
   150
   244
   Other labs: PT / PTT / INR:13.1/30.8/1.1, CK / CKMB /
   Troponin-T:20//<0.01, ALT / AST:25/28, Alk Phos / T Bili:71/0.5, Lactic
   Acid:1.3 mmol/L, LDH:505 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning for ischemic etiology.
   .
   # Mental status
 likely deteriorating [**12-31**] ventriculomegaly and
   hydrocephalus, possible non-communicating hydrocephalus in setting of
   recent subarachnoid hemorrhage.
   - to OR this AM for urgent placement of ventriculostomy
   - will f/u neurosurg recs, appreciate input
   - avoid sedatives as able
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. This is unlikely in
   stent thrombosis given negative cardiac enzymes at OSH. Admission EKG
   looks unchanged from baseline. However, EKG on transfer shows diffuse
   TWI, with ST depressions in V2-V6, with ST elevations in aVR.  Patient
   appears slightly volume overloaded, which certainly could be secondary
   to cardiac ischemia.
   - Chest pain 2 days ago
 no enzyme leak, ECG unchanged
 likely
   anxiety component, relieved with Ativan
   - Trend CEs
 continue to be negative
   - Will discuss potential cath -> deferred, likely low yield; also
   deferred swan placement yesterday in setting of mental status changes,
   CT head findings
   - Carvedilol 25mg po bid
   - ASA 325mg mg po daily
   - Plavix 75mg po daily
   - Lisinopril 10mg po daily
   - Atorvastatin 80mg
   - SL nitro PRN CP
   .
   # PUMP:  Systolic Congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  [**Name13 (STitle) **] currently appears mild fluid
   overloaded. Though JVP difficult to assess given ventilatory support
   and trach collar. LE only have 1+ edema bilaterally. Crackles and
   wheezes bilaterally. Unclear cause of this exacerbation. Differential
   includes ischemia.
   - Lasix 40mg IV daily, Lasix 20 po bid - titrate to UO goal 500cc/day
   - Continue lisinopril, carvedilol
   - Rule out MI as per above
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Respiratory failure: Patient apparently has bilateral infiltrates
   per OSH records with multiple sputum cultures + for MRSA with 50,000
   colonies. Differential includes pneumonia vs. fluid overload from CHF
   vs. ARDS.  Given elevated BNP, with clinical signs of mild fluid
   overload, and decreased systolic function seen on echo, it's hard to
   confirm diagnosis of ARDS [**12-31**] chronic aspiration. Pulm consulted and
   believes respiratory failure [**12-31**] fluid overload from HF. Chest CT read
   as likely infectious cause with possible superimposed pulmonary edema,
   diffuse hemorrhage, or ARDS.
   - Continue pressure support as patient tolerates -> pt had increasing
   respiratory distress, possible [**12-31**] worsening pulm infection with
   underlying anxiety
   - D/C
d solumedrol that pt was transferred from OSH with
   - f/u sputum cultures, blood cultures
   - diurese with 40mg IV lasix daily -consider [**Hospital1 **] for goal UO 500cc/day
   - continue albuterol and ipratropium PRN shortness of breath
   - AM CXR
   - cont vanc, cefepime, cipro for double pseudomonas coverage
   .
   #  Diffuse T wave inversions: Differential includes cardiac ischemia,
   cerebrovascular injury, or cardiomyopathy.  Given history of SAH, and
   recently starting plavix, exacerbation of prior head bleed is a
   possibility. Patient's neurologic exam is focal given prior CVA, but at
   her baseline. OSH Head CT on [**8-20**] showed no intracranial hemorrhage or
   mass.
   -obtain OSH CT head imaging -> no evidence of ventriculomegaly on this
   scan
   -rule out ischemia, as per above
   .
   #  Normocytic anemia: HCT 24.8.  Patient received 1u PRBCs today.
   Unclear what admission HCT was initially. Baseline from [**Month (only) 435**]
   hospitalization here was 26-28. Iron 49, Ferritin 1828, TIBC 176
   anemia of chronic disease picture with extremely high ferritin.
   -guaiac stools
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -Pain control with morphine and percocet, per prior regimen
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis: Continue keppra
   .
   FEN:  G tube in place -Glucerna 1.0 tube feeds at goal rate 55cc/L +
   150 free H2O [**Hospital1 **].
   .
   ACCESS: R subclavian placed at OSH on [**8-20**]
   Foley catheter in place
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SQ
   -Pain management with morphine
   -Bowel regimen with  docusate
   .
   CODE: Presumed full -will need to find out who HCP is
   .
   COMM: unknown at this time
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-21**] 12:10 AM
   Arterial Line - [**2160-8-21**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   critically ill due to hypoxic respiratory failure, sepsis,
   hydrocephalus, recent multiple trauma, coronary artery disease,
   ventilated.
   Date of service 9/26/9 at 10am.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2160-9-1**] 09:11 ------

2160-08-24 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ICP CATHETER - START [**2160-8-23**] 10:34 PM
 PAN CULTURE - At [**2160-8-24**] 06:33 AM
   Went to OR yesterday, had Ventricular drain placed.
   Plastics saw wound on head: deep infected hematoma -debrided and
   undermined it -likely source of infection.
   -wet to dry dressings [**Hospital1 **]
   .
   neurosurg wants her off heparin and asa for 48 hrs, off plavix at least
   10 days.
   .
   Patient spiking yesterday, with FEVER - 102.5
F - [**2160-8-24**] 06:00 AM
   (Tmax).  Sputum culture and mini BAL grew out Klebsiella oxytoca
   resistant to ceftaz --> changed abx from vanc/cipro/cefepime to
   vanc/meropenem.
   Weaned off propofol at 1 am.
   Given lasix 4o IV x 3 yesterday for goal 500cc neg
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Cefipime - [**2160-8-23**] 04:00 PM
   Ciprofloxacin - [**2160-8-23**] 04:00 PM
   Vancomycin - [**2160-8-23**] 09:16 PM
   Meropenem - [**2160-8-24**] 02:14 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-8-23**] 11:53 PM
   Morphine Sulfate - [**2160-8-24**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-24**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 39.2
C (102.5
   HR: 82 (64 - 84) bpm
   BP: 133/47(76) {98/33(53) - 147/58(90)} mmHg
   RR: 17 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.2 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 5 (4 - 11)mmHg
   ICP: -1 (-1 - 11) mmHg
   Total In:
                                                                  3,163 mL
                                                                    400 mL
   PO:
   TF:
                                                                     14 mL
   IVF:
                                                                  2,448 mL
                                                                    400 mL
   Blood products:
                                                                    501 mL
   Total out:
                                                                  2,638 mL
                                                                  1,102 mL
   Urine:
                                                                  2,488 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
                                                                     57 mL
   Balance:
                                                                    525 mL
                                                                   -702 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 344 (295 - 413) mL
   PS : 20 cmH2O
   RR (Set): 18
   RR (Spontaneous): 31
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.50/42/191/31/8
   Ve: 11.3 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach collar
   Cardiovascular: (PMI Normal), (S1: No(t) Absent), (S2: Normal), no
   murmur, rub or gallop appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: ), Anterior exam only
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed, Intermittently responsive to verbal stimuli
   Labs / Radiology
   197 K/uL
   8.1 g/dL
   68 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.2 mEq/L
   19 mg/dL
   89 mEq/L
   126 mEq/L
   24.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2160-8-23**]  06:33 AM
                             [**2160-8-23**]  08:31 AM
                             [**2160-8-23**]  08:58 AM
                             [**2160-8-23**]  01:41 PM
                             [**2160-8-23**]  01:54 PM
                             [**2160-8-23**]  04:42 PM
                             [**2160-8-23**]  06:23 PM
                             [**2160-8-23**]  07:47 PM
                             [**2160-8-24**]  02:01 AM
                             [**2160-8-24**]  02:08 AM
   WBC
   10.5
   7.7
   Hct
   24.8
   24.3
   Plt
   [**Telephone/Fax (3) 10329**]
   Cr
   0.6
   0.5
   TropT
   <0.01
   TCO2
   32
   32
   33
   31
   28
   35
   34
   Glucose
   163
   165
   195
   68
   Other labs: PT / PTT / INR:13.1/24.7/1.1, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:25/28, Alk Phos / T Bili:71/0.5, Lactic
   Acid:1.3 mmol/L, LDH:505 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning for ischemic etiology.
   .
   # Mental status
 likely deteriorating [**12-31**] ventriculomegaly and
   hydrocephalus, possible non-communicating hydrocephalus in setting of
   recent subarachnoid hemorrhage.
   - to OR yesterday for urgent placement of ventriculostomy
   - will f/u neurosurg recs, appreciate input
   - avoid sedatives as able
 currently off propofol
   .
   # Klebsielly pna, possible infected scalp hematoma.
   - meropenem started [**8-23**].  cipro and cefepime stopped.
   - continue vanc until scalp culture returns
   - continue to f/u all cultures
   - will send csf cultures today
   .
   #  Respiratory failure: Patient apparently has bilateral infiltrates
   per OSH records with multiple sputum cultures + for MRSA with 50,000
   colonies. Differential includes pneumonia vs. fluid overload from CHF
   vs. ARDS.  Given elevated BNP, with clinical signs of mild fluid
   overload, and decreased systolic function seen on echo, it's hard to
   confirm diagnosis of ARDS [**12-31**] chronic aspiration. Pulm consulted and
   believes respiratory failure [**12-31**] fluid overload from HF. Chest CT read
   as likely infectious cause with possible superimposed pulmonary edema,
   diffuse hemorrhage, or ARDS.
   - Continue pressure support as patient tolerates -> pt had increasing
   respiratory distress, possible [**12-31**] worsening pulm infection with
   underlying anxiety
   - D/C
d solumedrol that pt was transferred from OSH with
   - f/u sputum cultures, blood cultures
   - diurese with 40mg IV lasix daily -consider [**Hospital1 **] for goal UO 500cc/day
   - continue albuterol and ipratropium PRN shortness of breath
   - AM CXR daily
   - cont vanc, meropenem for klebsiella in sputum
   .
   # hyponatremia: new onset in setting of ventriculostomy and D5NS
   overnight.
   - d/c D5NS.
   - f/u PM lytes
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. This is unlikely in
   stent thrombosis given negative cardiac enzymes at OSH. Admission EKG
   looks unchanged from baseline. However, EKG on transfer shows diffuse
   TWI, with ST depressions in V2-V6, with ST elevations in aVR.  Patient
   appears slightly volume overloaded, which certainly could be secondary
   to cardiac ischemia.
   - Chest pain 2 days ago
 no enzyme leak, ECG unchanged
 likely
   anxiety component, relieved with Ativan
   - Trend CEs
 continue to be negative
   - Will discuss potential cath -> deferred, likely low yield; also
   deferred swan placement yesterday in setting of mental status changes,
   CT head findings
   - Carvedilol 25mg po bid
   - ASA 325mg mg po daily
   - Plavix 75mg po daily
   - Lisinopril 10mg po daily
   - Atorvastatin 80mg
   - SL nitro PRN CP
   .
   # PUMP:  Systolic Congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  [**Name13 (STitle) **] currently appears mild fluid
   overloaded. Though JVP difficult to assess given ventilatory support
   and trach collar. LE only have 1+ edema bilaterally. Crackles and
   wheezes bilaterally. Unclear cause of this exacerbation. Differential
   includes ischemia.
   - Lasix 40mg IV daily  titrate to goal 500cc/day neg or even
   - Continue lisinopril, carvedilol
   - Rule out MI as per above
 all trops have been neg
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Diffuse T wave inversions: Differential includes cardiac ischemia,
   cerebrovascular injury, or cardiomyopathy.  Given history of SAH, and
   recently starting plavix, exacerbation of prior head bleed is a
   possibility. Patient's neurologic exam is focal given prior CVA, but at
   her baseline. OSH Head CT on [**8-20**] showed no intracranial hemorrhage or
   mass.
   -obtain OSH CT head imaging -> no evidence of ventriculomegaly on this
   scan
   -rule out ischemia, as per above
   .
   #  Normocytic anemia: HCT 24.8.  Patient received 1u PRBCs today.
   Unclear what admission HCT was initially. Baseline from [**Month (only) 435**]
   hospitalization here was 26-28. Iron 49, Ferritin 1828, TIBC 176
   anemia of chronic disease picture with extremely high ferritin.
   - given 1 unit in OR.  Hct stable this AM
   -guaiac stools
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -Pain control with morphine and percocet, per prior regimen
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis: Continue keppra
   .
   FEN:  G tube in place -Glucerna 1.0 tube feeds at goal rate 55cc/L +
   150 free H2O [**Hospital1 **].
   .
   ACCESS: R subclavian placed at OSH on [**8-20**]
   Foley catheter in place
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SQ
   -Pain management with morphine
   -Bowel regimen with  docusate
   .
   CODE: Full code
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-23**] 12:30 PM
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-08-25 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 70 yo female s/p CABG, hx systolic CHF, now trach
   dependent since [**2160-6-28**] peds vs car accident and with respiratory
   distress thought to be secondary to PNA vs volume overload.
   24 Hour Events:
 MULTI LUMEN - STOP [**2160-8-24**] 02:21 PM
 ARTERIAL LINE - STOP [**2160-8-25**] 06:01 AM
 BLOOD CULTURED - At [**2160-8-25**] 06:35 AM
 FEVER - 101.7
F - [**2160-8-25**] 06:00 AM
   -Mini Bal cxs grew klebsiella, pt started on meropenem
   -PEEP decreased from 12 to 10, PSV weaned to 16
   -[**8-24**] cxs pending
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Cefipime - [**2160-8-23**] 04:00 PM
   Ciprofloxacin - [**2160-8-23**] 04:00 PM
   Meropenem - [**2160-8-24**] 07:23 PM
   Vancomycin - [**2160-8-24**] 08:11 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-8-24**] 04:43 PM
   Morphine Sulfate - [**2160-8-25**] 12:51 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-25**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 89 (69 - 89) bpm
   BP: 154/60(92) {84/37(58) - 154/69(92)} mmHg
   RR: 33 (17 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 3 (3 - 6)mmHg
   ICP: 11 (0 - 11) mmHg
                                Total In:
                                                                  2,134 mL
                                                                    303 mL
   PO:
                                TF:
                                                                    300 mL
                                                                    236 mL
   IVF:
                                                                  1,715 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,573 mL
                                                                    278 mL
   Urine:
                                                                  2,440 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
                                                                    133 mL
                                                                     63 mL
   Balance:
                                                                   -439 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 424 (370 - 430) mL
   PS : 16 cmH2O
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: 7.45/47/95.[**Numeric Identifier 143**]/29/7
   Ve: 11.9 L/min
   PaO2 / FiO2: 160
   Physical Exam
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NCAT, trach collar in place with no drainage
   Cardiovascular: RRR, no MRG
   Peripheral Vascular: Radial pulses 2+
   Respiratory / Chest: Breath sounds rhonchorous bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: SCDs in place.  Minimal edema
   Skin:  WWP
   Neurologic: Responds to commands, nods to questioning
   Labs / Radiology
   211 K/uL
   8.1 g/dL
   226 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.5 mEq/L
   15 mg/dL
   98 mEq/L
   134 mEq/L
   24.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2160-8-23**]  06:23 PM
                             [**2160-8-23**]  07:47 PM
                             [**2160-8-24**]  02:01 AM
                             [**2160-8-24**]  02:08 AM
                             [**2160-8-24**]  09:00 AM
                             [**2160-8-24**]  03:29 PM
                             [**2160-8-24**]  03:47 PM
                             [**2160-8-24**]  05:47 PM
                             [**2160-8-25**]  02:28 AM
                             [**2160-8-25**]  02:36 AM
   WBC
   7.7
   7.0
   Hct
   24.3
   24.7
   Plt
   197
   211
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   28
   35
   34
   31
   32
   34
   Glucose
   68
   171
   171
   180
   226
   Other labs: PT / PTT / INR:12.8/23.6/1.1, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:25/28, Alk Phos / T Bili:71/0.5, Lactic
   Acid:1.3 mmol/L, LDH:505 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Also suspect volume
   overload given her poor systolic function.  No recent CXR however prior
   studies concerning for infection and volume overload, cannot r/o ARDS.
   - Pt tolerated wean on PS well.  Continue to wean as tolerated.
   - pt spiked/cultured last night, continue to follow cxs
   - continue to diurese with 40mg IV lasix daily  for goal UO [**Telephone/Fax (1) 179**]
   cc/day
   - continue albuterol and ipratropium PRN shortness of breath
   - cont vanc, meropenem for hx of MRSA and recent klebsiella in sputum
   .
   # Mental status
 improving.  Likely [**12-31**] ventriculomegaly and
   hydrocephalus, may also be a component of delirium secondary to her
   PNA.   Drain placed by neuronsurg for non-communicating hydrocephalus
   in setting of recent subarachnoid hemorrhage.
   - will f/u neurosurg recs, appreciate input
   - avoid sedatives as able, however will re-start home dose of fentanyl
   for chronic pain
   .
   # scalp hematoma: dressed, no evidence of active bleed or infection.
   If infected, pt covered by vanc, however no evidence of infection at
   this time.
   -continue wound care
   -wound cultures pending
   .
   # hyponatremia: new onset in setting of ventriculostomy and D5NS
   overnight.   Concern for SIADH.  Holding NS for now.
   - f/u PM lytes
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. This is unlikely in
   stent thrombosis given negative cardiac enzymes at OSH. Admission EKG
   looks unchanged from baseline. However, EKG on transfer shows diffuse
   TWI, with ST depressions in V2-V6, with ST elevations in aVR.  Patient
   appears slightly volume overloaded, which certainly could be secondary
   to cardiac ischemia.  Given her negative CEs and EKG, pain thought
   secondary to anxiety.  Troponins negative to date.  No plan for Cath at
   this time.
   - Ativan for anxiety
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP
   - Holding Plavix 75mg po daily for now given recent drain placement.
   Will f/u with neurosurg regarding re-starting plavix given her recent
   stent placement.
   .
   # PUMP:  Systolic Congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  [**Name13 (STitle) **] currently appears mild fluid
   overloaded and had inadequate UOP yesterday.
   - Lasix 40mg IV daily  titrate to goal negative 500cc-1L today
   - Continue lisinopril, carvedilol
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Diffuse T wave inversions: Differential includes cardiac ischemia,
   cerebrovascular injury, or cardiomyopathy.  Given history of SAH, and
   recently starting plavix, exacerbation of prior head bleed is a
   possibility. Patient's neurologic exam is focal given prior CVA, but at
   her baseline. OSH Head CT on [**8-20**] showed no intracranial hemorrhage or
   mass.  No evidence of active ischemia at this time.
   -obtain OSH CT head imaging -> no evidence of ventriculomegaly on this
   scan
   .
   #  Normocytic anemia: HCT 24.7 today and has been stable. Baseline from
   [**Month (only) 435**] hospitalization here was 26-28. Iron 49, Ferritin 1828, TIBC 176
 anemia of chronic disease picture with extremely high ferritin.  Will
   not transfuse today given that she does not appear to have active
   ischemia.
   - follow daily crit
   -guaiac all stools
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -Pain control with home fentanyl
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis: Continue keppra
   ICU Care
   Nutrition: Nutren tube feeds via G tube
   Glycemic Control:
   Lines:
   Right subclavian placed at OSH on [**8-20**]
   Multi Lumen - [**2160-8-23**] 12:30 PM
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Foley catheter in place
   Prophylaxis:
   DVT: SCDs
   Stress ulcer:  famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with family member, next of [**Doctor First Name 372**] or health
   care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   critically ill due to acute hydrocephalus, respiratory failure,
   pneumonia, acute on chronic systolic CHF, altered mental status.
   Date/time of service 9/28/9 at 1200.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2160-8-25**] 16:54 ------

2160-08-26 06:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2160-8-25**] 10:01 AM
 INVASIVE VENTILATION - START [**2160-8-25**] 10:00 PM
 INVASIVE VENTILATION - STOP [**2160-8-25**] 10:01 PM
 EKG - At [**2160-8-26**] 04:00 AM
 INVASIVE VENTILATION - START [**2160-8-26**] 04:47 AM
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-8-23**] 04:00 PM
   Cefipime - [**2160-8-23**] 04:00 PM
   Vancomycin - [**2160-8-25**] 08:00 PM
   Meropenem - [**2160-8-26**] 01:52 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2160-8-25**] 05:20 PM
   Famotidine (Pepcid) - [**2160-8-25**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-8-25**] 10:00 PM
   Morphine Sulfate - [**2160-8-26**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-26**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 105 (71 - 105) bpm
   BP: 142/58(88) {123/43(69) - 161/67(101)} mmHg
   RR: 34 (21 - 40) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 65.3 kg
   Height: 64 Inch
    ICP: 2 (-3 - 10) mmHg
   Total In:
                                                                  2,245 mL
                                                                    389 mL
   PO:
   TF:
                                                                    840 mL
                                                                    219 mL
   IVF:
                                                                  1,005 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,841 mL
                                                                    219 mL
   Urine:
                                                                  2,707 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
                                                                    134 mL
                                                                     34 mL
   Balance:
                                                                   -596 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (410 - 444) mL
   PS : 20 cmH2O
   RR (Spontaneous): 34
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   SpO2: 92%
   ABG: 7.45/43/95.[**Numeric Identifier 218**]/30/4
   Ve: 15.7 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   8.4 g/dL
   273 mg/dL
   0.6 mg/dL
   30 mEq/L
   5.2 mEq/L
   20 mg/dL
   102 mEq/L
   139 mEq/L
   26.1 %
   5.3 K/uL
        [image002.jpg]
                             [**2160-8-25**]  02:28 AM
                             [**2160-8-25**]  02:36 AM
                             [**2160-8-25**]  11:21 AM
                             [**2160-8-25**]  01:23 PM
                             [**2160-8-25**]  03:04 PM
                             [**2160-8-25**]  08:00 PM
                             [**2160-8-25**]  10:34 PM
                             [**2160-8-26**]  02:00 AM
                             [**2160-8-26**]  03:53 AM
                             [**2160-8-26**]  04:03 AM
   WBC
   7.0
   7.0
   5.3
   Hct
   24.7
   24.7
   26.1
   Plt
   [**Telephone/Fax (3) 10363**]
   Cr
   0.5
   0.5
   0.6
   TCO2
   34
   32
   29
   31
   Glucose
   [**Telephone/Fax (3) 10364**]84
   181
   273
   Other labs: PT / PTT / INR:12.8/23.6/1.1, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:25/28, Alk Phos / T Bili:71/0.5, Lactic
   Acid:1.3 mmol/L, LDH:505 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Also suspect volume
   overload given her poor systolic function.  No recent CXR however prior
   studies concerning for infection and volume overload, cannot r/o ARDS.
   - Pt tolerated wean on PS well.  Continue to wean as tolerated.
   - pt spiked/cultured last night, continue to follow cxs
   - continue to diurese with 40mg IV lasix daily  for goal UO [**Telephone/Fax (1) 179**]
   cc/day
   - continue albuterol and ipratropium PRN shortness of breath
   - cont vanc, meropenem for hx of MRSA and recent klebsiella in sputum
   .
   # Mental status
 improving.  Likely [**12-31**] ventriculomegaly and
   hydrocephalus, may also be a component of delirium secondary to her
   PNA.   Drain placed by neuronsurg for non-communicating hydrocephalus
   in setting of recent subarachnoid hemorrhage.
   - will f/u neurosurg recs, appreciate input
   - avoid sedatives as able, however will re-start home dose of fentanyl
   for chronic pain
   .
   # scalp hematoma: dressed, no evidence of active bleed or infection.
   If infected, pt covered by vanc, however no evidence of infection at
   this time.
   -continue wound care
   -wound cultures pending
   .
   # hyponatremia: new onset in setting of ventriculostomy and D5NS
   overnight.   Concern for SIADH.  Holding NS for now.
   - f/u PM lytes
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. This is unlikely in
   stent thrombosis given negative cardiac enzymes at OSH. Admission EKG
   looks unchanged from baseline. However, EKG on transfer shows diffuse
   TWI, with ST depressions in V2-V6, with ST elevations in aVR.  Patient
   appears slightly volume overloaded, which certainly could be secondary
   to cardiac ischemia.  Given her negative CEs and EKG, pain thought
   secondary to anxiety.  Troponins negative to date.  No plan for Cath at
   this time.
   - Ativan for anxiety
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP
   - Holding Plavix 75mg po daily for now given recent drain placement.
   Will f/u with neurosurg regarding re-starting plavix given her recent
   stent placement.
   .
   # PUMP:  Systolic Congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  [**Name13 (STitle) **] currently appears mild fluid
   overloaded and had inadequate UOP yesterday.
   - Lasix 40mg IV daily  titrate to goal negative 500cc-1L today
   - Continue lisinopril, carvedilol
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Diffuse T wave inversions: Differential includes cardiac ischemia,
   cerebrovascular injury, or cardiomyopathy.  Given history of SAH, and
   recently starting plavix, exacerbation of prior head bleed is a
   possibility. Patient's neurologic exam is focal given prior CVA, but at
   her baseline. OSH Head CT on [**8-20**] showed no intracranial hemorrhage or
   mass.  No evidence of active ischemia at this time.
   -obtain OSH CT head imaging -> no evidence of ventriculomegaly on this
   scan
   .
   #  Normocytic anemia: HCT 24.7 today and has been stable. Baseline from
   [**Month (only) 435**] hospitalization here was 26-28. Iron 49, Ferritin 1828, TIBC 176
 anemia of chronic disease picture with extremely high ferritin.  Will
   not transfuse today given that she does not appear to have active
   ischemia.
   - follow daily crit
   -guaiac all stools
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -Pain control with home fentanyl
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis: Continue keppra
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATORY FORCES AND FLOW, IMPAIRED
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-8-24**] 04:08 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   18 Gauge - [**2160-8-24**] 02:23 PM
   20 Gauge - [**2160-8-24**] 02:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-08-27 05:57:00 Physician Resident Progress Note
Chief Complaint: 70 yo female s/p CABG, hx systolic CHF, now trach
   dependent since [**2160-6-28**] peds vs car accident and with respiratory
   distress thought to be secondary to PNA vs volume overload.
   24 Hour Events:
 EKG - At [**2160-8-26**] 08:00 AM
 BLOOD CULTURED - At [**2160-8-26**] 08:15 AM
   right arm stick
 BLOOD CULTURED - At [**2160-8-26**] 09:15 AM
   right foot stick
 PA CATHETER - START [**2160-8-26**] 11:15 AM
 Diaphoretic overnight with hypotension.  EKG obtained at [**2160-8-26**]
   11:30 PM.  On Levophed.
 FEVER - 101.4
F - [**2160-8-26**] 07:39 AM
 Poor glucose control despite increase of Glargine 15 -> 18.
 Received extra 40mg IV Lasix, as was 500cc positive.
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Azithromycin - [**2160-8-26**] 01:30 PM
   Vancomycin - [**2160-8-26**] 09:28 PM
   Meropenem - [**2160-8-27**] 03:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2160-8-26**] 07:24 AM
   Propofol - [**2160-8-26**] 07:55 AM
   Midazolam (Versed) - [**2160-8-26**] 07:35 PM
   Famotidine (Pepcid) - [**2160-8-26**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2160-8-26**] 10:00 PM
   Fentanyl - [**2160-8-26**] 10:10 PM
   Furosemide (Lasix) - [**2160-8-26**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-27**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 79 (61 - 111) bpm
   BP: 129/52(77) {71/32(44) - 162/69(102)} mmHg
   RR: 25 (15 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.2 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 9 (-31 - 14)mmHg
   PAP: (62 mmHg) / (26 mmHg)
   PCWP: 16 (16 - 24) mmHg
   CO/CI (Fick): (4.9 L/min) / (2.9 L/min/m2)
   ICP: 2 (-1 - 9) mmHg
   Mixed Venous O2% Sat: 58 - 61
   Total In:
                                                                  2,999 mL
                                                                    679 mL
   PO:
   TF:
                                                                    769 mL
                                                                    253 mL
   IVF:
                                                                  1,965 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  1,858 mL
                                                                    470 mL
   Urine:
                                                                  1,784 mL
                                                                    459 mL
   NG:
   Stool:
   Drains:
                                                                     74 mL
                                                                     11 mL
   Balance:
                                                                  1,141 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PRVC/AC
   Vt (Set): 340 (340 - 380) mL
   Vt (Spontaneous): 0 (0 - 380) mL
   PS : 22 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 0 cmH2O
   SpO2: 96%
   ABG: 7.44/50/112/31/8
   Ve: 9.2 L/min
   PaO2 / FiO2: 224
   Physical Examination
   GEN: Pt sedated, not responsive to commands, open eyes to verbal
   stimuli
   HEENT: PERRL, MMM
   PULM: Equal BS b/l anteriorly, clear anteriorly
   CV: NSR, no MRG
   ABD: soft, NT, + BS
   EXT: WWP, minimal LE edema L>R
   Labs / Radiology
   221 K/uL
   8.5 g/dL
   287 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.3 mEq/L
   24 mg/dL
   104 mEq/L
   142 mEq/L
   26.1 %
   5.0 K/uL
        [image002.jpg]
                             [**2160-8-26**]  08:50 AM
                             [**2160-8-26**]  11:54 AM
                             [**2160-8-26**]  04:52 PM
                             [**2160-8-26**]  05:10 PM
                             [**2160-8-26**]  11:41 PM
                             [**2160-8-26**]  11:49 PM
                             [**2160-8-27**]  02:15 AM
                             [**2160-8-27**]  04:27 AM
                             [**2160-8-27**]  04:33 AM
                             [**2160-8-27**]  07:01 AM
   WBC
   5.0
   Hct
   26.1
   Plt
   221
   Cr
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   <0.01
   TCO2
   35
   33
   35
   32
   34
   35
   Glucose
   198
   253
   287
   Other labs: PT / PTT / INR:12.8/23.6/1.1, CK / CKMB /
   Troponin-T:18/3/<0.01, ALT / AST:25/28, Alk Phos / T Bili:71/0.5,
   Lactic Acid:1.0 mmol/L, LDH:505 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.5 mg/dL
   Imaging: [**8-26**] CXR:
   The fluctuating pattern of slight worsening and improvement over
   multiple serial chest radiographs is most likely due to superimposed
   pulmonary edema.  Increased confluent opacification in the right
   costophrenic angle suggests evolving pneumonia. The cardiomediastinal
   silhouette is unchanged.
   [**8-26**] CXR:
   The graphic appearance of the chest is unchanged since 5:44 a.m., which
   showed generalized increased opacification in the lungs and new right
   pleural effusion most readily explained by pulmonary edema superimposed
   on the diffuse infiltrative pulmonary abnormality which is the cause of
   recent respiratory failure. The heart is not enlarged, and there is no
   pneumothorax.  Tracheostomy tube is in standard placement. Swan-Ganz
   catheter has been inserted through a right jugular introducer, but may
   loop in the ventricular outflow tract. Dr. [**Last Name (STitle) 10393**] was paged.
   Microbiology: [**8-27**], [**8-26**] BCx pending
   [**8-26**] UCx pending
   [**2160-8-25**] 2:06 pm CSF;SPINAL FLUID      Source: Shunt.
      GRAM STAIN (Final [**2160-8-25**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
   [**8-25**] SPUTUM
      GRAM STAIN (Final [**2160-8-25**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
            SENSITIVITIES PERFORMED ON CULTURE # 282 1440L [**2160-8-21**].
         KLEBSIELLA OXYTOCA.    RARE GROWTH.
   ECG: [**8-26**]:  NSR at 100bpm, normal axis, prior ST depressions from [**8-20**]
   now increasingly downsloping
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Also suspect volume
   overload given her poor systolic function.  CXR this AM shows worsening
   RLL infiltrate.  Unclear etiology of her worsening resp status o/n,
   however concern for worsening pna vs ARDS.  Also concern for PE and
   cardiac ischemia given worsening ST depressions, however less likely
   given CXR findings and negative CEs.
   - Continue AC ventilation with pressure support.
   - Pt spiked this AM, will re-culture and follow for growth
   - Continue to diurese with 40mg IV lasix daily  for goal UO [**Telephone/Fax (1) 179**]
   cc/day if pressures stable
   - Continue albuterol and ipratropium PRN shortness of breath
   - Cont Vanc, Meropenem for hx of MRSA and recent klebsiella in sputum
   - Continue Azithromycin for atypical coverage
   - ID consulted regarding worsening effusions/infiltrate on chest CT on
   current abx, recommend continuing [**Last Name (un) **]/Vanc
   - Pulm consult for ? bronch
 will re-evaluate pt once optimally
   diuresed for ?BAL at the end of the week if appropriate
   .
   # Mental status
 Likely [**12-31**] ventriculomegaly and hydrocephalus, may
   also be a component of delirium secondary to her PNA and hypoxemia.
   Drain placed by neuronsurg for non-communicating hydrocephalus in
   setting of recent subarachnoid hemorrhage.  CT head overnight stable
   hydrocephalus.
   - f/u neurosurg recs, appreciate input
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, however no
   evidence of infection at this time.
   -Continue wound care
   -Wound cultures pending
   .
   # Hyponatremia: New onset in setting of ventriculostomy and D5NS
   overnight.   Concern for SIADH.  Resolved.
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. This is unlikely in
   stent thrombosis given negative cardiac enzymes at OSH. Recent EKG
   concerning for worsening ST depressions, similar EKG findings with
   diaphoretic episode last night but negative CEs.
   - CEs as necessary, particularly for diaphoretic episodes.
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Neurosurgery comfortable with re-starting ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.
   Neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement.
   .
   # PUMP:  Systolic Congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  [**Name13 (STitle) **] currently appears mildly
   fluid overloaded and had inadequate UOP yesterday, essentially even.
   - Continue Lisinopril, Carvedilol, hold for hypotension
   - Received Lasix 40mg IV today, will recheck UO this afternoon and
   re-dose as necessary for goal UO -500-1L
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Diffuse T wave inversions: At baseline.  Differential includes
   cardiac ischemia, cerebrovascular injury, or cardiomyopathy.
   -neurosurg following
   -repeat CEs
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was 26-28. Iron 49, Ferritin 1828, TIBC 176
 anemia of chronic
   disease picture with extremely high ferritin.  Will not transfuse today
   given that she does not appear to have active ischemia.
   - follow daily crit
   -guaiac all stools
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -Pain control with home fentanyl
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis: Continue keppra
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATORY FORCES AND FLOW, IMPAIRED
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition: Nutren tube feeds via G tube
   Glycemic Control:
   Lines:
   Right subclavian placed at OSH on [**8-20**]
   Multi Lumen - [**2160-8-23**] 12:30 PM
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Foley catheter in place
   Prophylaxis:
   DVT: SCDs
   Stress ulcer:  famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-8-27**] 05:01 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   18 Gauge - [**2160-8-24**] 02:23 PM
   20 Gauge - [**2160-8-24**] 02:23 PM
   PA Catheter - [**2160-8-26**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-08-28 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   600cc negative at 21:00, gave extra dose Lasix 40mg IV.
   4 point Hct drop, so STAT head CT ordered this AM.
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-8-27**] 08:30 AM
   Meropenem - [**2160-8-27**] 08:30 AM
   Azithromycin - [**2160-8-27**] 03:11 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-27**] 03:12 PM
   Midazolam (Versed) - [**2160-8-27**] 04:05 PM
   Fentanyl - [**2160-8-27**] 04:05 PM
   Furosemide (Lasix) - [**2160-8-27**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-28**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.6
   HR: 79 (72 - 89) bpm
   BP: 120/42(67) {98/34(54) - 157/61(96)} mmHg
   RR: 25 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.2 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 3 (2 - 11)mmHg
   PAP: (53 mmHg) / (19 mmHg)
   ICP: 0 (0 - 4) mmHg
   Mixed Venous O2% Sat: 58 - 58
   Total In:
                                                                  2,502 mL
                                                                    215 mL
   PO:
   TF:
                                                                    842 mL
                                                                     83 mL
   IVF:
                                                                  1,340 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  3,141 mL
                                                                    480 mL
   Urine:
                                                                  3,104 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
                                                                     37 mL
                                                                      5 mL
   Balance:
                                                                   -639 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PRVC/AC
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.47/51/99.[**Numeric Identifier 126**]/36/11
   Ve: 9.7 L/min
   PaO2 / FiO2: 198
   Physical Examination
   GEN: Pt sedated, not responsive to commands, open eyes to verbal
   stimuli
   HEENT: PERRL, MMM
   PULM: Equal BS b/l anteriorly, clear anteriorly
   CV: NSR, no MRG
   ABD: soft, NT, + BS
   EXT: WWP, minimal LE edema L>R
   Labs / Radiology
   189 K/uL
   7.5 g/dL
   171 mg/dL
   0.5 mg/dL
   36 mEq/L
   4.2 mEq/L
   25 mg/dL
   104 mEq/L
   146 mEq/L
   22.2 %
   4.6 K/uL
        [image002.jpg]
                             [**2160-8-26**]  11:49 PM
                             [**2160-8-27**]  02:15 AM
                             [**2160-8-27**]  04:27 AM
                             [**2160-8-27**]  04:33 AM
                             [**2160-8-27**]  07:01 AM
                             [**2160-8-27**]  12:45 PM
                             [**2160-8-27**]  03:57 PM
                             [**2160-8-27**]  04:56 PM
                             [**2160-8-28**]  01:36 AM
                             [**2160-8-28**]  04:58 AM
   WBC
   5.0
   4.6
   Hct
   26.1
   22.2
   Plt
   221
   189
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   35
   32
   34
   35
   35
   40
   38
   Glucose
   287
   263
   171
   Other labs: PT / PTT / INR:12.8/23.6/1.1, CK / CKMB /
   Troponin-T:18/3/<0.01, ALT / AST:25/28, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:57.7 %, Lymph:31.9 %, Mono:2.6 %, Eos:7.6 %, Lactic
   Acid:0.8 mmol/L, LDH:505 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Also suspect volume
   overload given her poor systolic function.  CXR this AM shows worsening
   RLL infiltrate.  Unclear etiology of her worsening resp status o/n,
   however concern for worsening pna vs ARDS.  Also concern for PE and
   cardiac ischemia given worsening ST depressions, however less likely
   given CXR findings and negative CEs.
   - Continue AC ventilation with pressure support.
   - Pt spiked this AM, will re-culture and follow for growth
   - Start lasix drip with goal of  at least 1L negative daily; goal
   100cc/hour urine output
   - Continue albuterol and ipratropium PRN shortness of breath
   - Cont Vanc, Meropenem for hx of MRSA and recent klebsiella in sputum
   - Continue Azithromycin for atypical coverage
   - ID consulted regarding worsening effusions/infiltrate on chest CT on
   current abx, recommend continuing [**Last Name (un) **]/Vanc
   - Pulm consult for ? bronch
 will re-evaluate pt once optimally
   diuresed for ?BAL at the end of the week if appropriate
   .
   # Mental status
 Likely [**12-31**] ventriculomegaly and hydrocephalus, may
   also be a component of delirium secondary to her PNA and hypoxemia.
   Drain placed by neuronsurg for non-communicating hydrocephalus in
   setting of recent subarachnoid hemorrhage.  CT head overnight stable
   hydrocephalus.
   - f/u neurosurg recs, appreciate input
   - try to wean down sedatives to examine neurologic function
   - f/u STAT head CT, concern for bleed d/t 4 point Hct drop
   .
   # Hct decrease by 4, but not far off from baseline
 stat head CT,
   repeat Hct, active t&s
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, wound culture
   showed sparse and rare growth coag negative Staph.
   -Continue wound care
   -Continue Vancomycin
   .
   # Hyponatremia: New onset in setting of ventriculostomy and D5NS
   overnight, now resolved.  Unlikely SIADH, but cortisol level pending.
   -f/u cortisol level
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. This is unlikely in
   stent thrombosis given negative cardiac enzymes at OSH. Recent EKG
   concerning for worsening ST depressions, similar EKG findings with
   diaphoretic episode last night but negative CEs.
   - CEs as necessary, particularly for diaphoretic episodes.
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Neurosurgery comfortable with re-starting ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.
   Neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement.
   - daily cardiac enzymes
   .
   # PUMP:  Systolic Congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  [**Name13 (STitle) **] yesterday consistent with fluid
   overload, diuresing on Lasix.  Patient currently appears mildly fluid
   overloaded and had inadequate UOP yesterday, essentially even.
   - Continue Lisinopril, Carvedilol, hold for hypotension
   - ?catheter being looped in ventricular outflow tract on CXR read [**8-26**]
 monitor for now, until pull [**Month/Year (2) **]
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Diffuse T wave inversions: At baseline.  Differential includes
   cardiac ischemia, cerebrovascular injury, or cardiomyopathy.
   -repeat CEs as needed
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was 26-28. Iron 49, Ferritin 1828, TIBC 176
 anemia of chronic
   disease picture with extremely high ferritin.  Will not transfuse today
   given that she does not appear to have active ischemia.
   - follow daily Hct
   -guaiac stools
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -d/c home fentanyl patch, as pt on Fentanyl drip
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs,
   therapeutic dose.  EEG not required now as other etiologies more likely
   for AMS and on therapeutic Keppra.  Neuro signed off.
   ICU Care
   Nutrition: Nutren tube feeds via G tube
   Glycemic Control:  Glargine 18 units qhs, SSI
   Lines:
   Right IJ placed [**8-26**]
   Multi Lumen - [**2160-8-23**] 12:30 PM
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Foley catheter in place
   Prophylaxis:
   DVT: SCDs
   Stress ulcer:  famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:  Patient opening eyes to verbal stimuli but
   non-verbal as intubated.
   Code status: Full code
   Disposition: CCU for now
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-8-27**] 05:01 AM 35 mL/hour
   Glycemic Control:
   Lines:
   IJ Central Line
 [**2160-8-26**]
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   18 Gauge - [**2160-8-24**] 02:23 PM
   20 Gauge - [**2160-8-24**] 02:23 PM
   PA Catheter - [**2160-8-26**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-08-29 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
C - [**2160-8-28**] 02:00 PM.
   -Attempted to decrease RR, O2 saturation decreased, so RR increased
   again
   -increased glargine from 20 to 30 (pt required 40+ units short acting
   in last 24 hrs)
   -Lasix gtt started to meet diuresis goals
 diuresing well
   -Foley replaced, UA and cxs sent
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Azithromycin - [**2160-8-28**] 12:27 PM
   Vancomycin - [**2160-8-28**] 08:10 PM
   Meropenem - [**2160-8-29**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 7.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-29**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-29**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38
C (100.4
   HR: 82 (74 - 96) bpm
   BP: 132/46(74) {109/38(60) - 165/73(102)} mmHg
   RR: 23 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 4 (3 - 11)mmHg
   PAP: (49 mmHg) / (18 mmHg)
   CO/CI (Fick): (5.9 L/min) / (3.5 L/min/m2)
   ICP: 4 (-1 - 8) mmHg
   Mixed Venous O2% Sat: 57 - 60
   Total In:
                                                                  2,325 mL
                                                                    599 mL
   PO:
   TF:
                                                                    878 mL
                                                                    202 mL
   IVF:
                                                                  1,447 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  3,463 mL
                                                                  1,579 mL
   Urine:
                                                                  3,380 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
                                                                     83 mL
                                                                     29 mL
   Balance:
                                                                 -1,138 mL
                                                                   -980 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PRVC/AC
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   SpO2: 95%
   ABG: 7.49/56/108/39/17
   Ve: 9.5 L/min
   PaO2 / FiO2: 216
   Physical Examination
   GEN: NAD, intubated, resting in bed, husband at bedside
   CV: RRR, mild II/VI systolic ejection murmur loudest at apex, but
   difficult to appreciate d/t sound of ventilator.
   PULM: CTAB but difficult to appreciate d/t sound of ventilator
   ABD: soft, NT, ND, +BS
   EXTR: no edema appreciated, venodynes in place, warm.
   NEURO: eyes open spontaneously, some questionable tracking of eyes to
   husband
s movement, non-responsive to verbal stimuli
   Labs / Radiology
   179 K/uL
   7.1 g/dL
   194 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.4 mEq/L
   22 mg/dL
   97 mEq/L
   143 mEq/L
   21.9 %
   4.3 K/uL
        [image002.jpg]
                             [**2160-8-27**]  12:45 PM
                             [**2160-8-27**]  03:57 PM
                             [**2160-8-27**]  04:56 PM
                             [**2160-8-28**]  01:36 AM
                             [**2160-8-28**]  04:58 AM
                             [**2160-8-28**]  12:37 PM
                             [**2160-8-28**]  03:38 PM
                             [**2160-8-29**]  04:30 AM
                             [**2160-8-29**]  04:31 AM
                             [**2160-8-29**]  06:29 AM
   WBC
   4.6
   4.3
   Hct
   22.2
   22.7
   21.9
   Plt
   189
   179
   Cr
   0.5
   0.5
   0.5
   TropT
   0.02
   0.02
   TCO2
   35
   40
   38
   36
   45
   44
   Glucose
   263
   171
   194
   Other labs: PT / PTT / INR:12.8/23.6/1.1, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:25/28, Alk Phos / T Bili:71/0.5,
   Differential-Neuts:61.9 %, Lymph:30.2 %, Mono:2.2 %, Eos:5.2 %, Lactic
   Acid:0.8 mmol/L, LDH:505 IU/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.  Appreciate ID/Pulm recs.  Pulm will
   re-evaluate pt once optimally diuresed for ?BAL at the end of the week
   if appropriate
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Most concerning for PNA
   and volume overload, however cannot r/o ARDS.
   - Continue AC ventilation with pressure support, will attempt to wean
   FiO2 today, have been unable to wean PEEP
   - Pt spiked again yesterday, will re-culture daily and follow for
   growth
   - Continue lasix, will start gtt if needed to maintain UOP of 100
   ccs/hr
   - Albuterol and Ipratropium PRN shortness of breath
   - Cont Vanc (started [**8-21**]), Meropenem (started [**8-23**]) for hx of MRSA and
   recent klebsiella in sputum
   - Continue Azithromycin (started [**8-26**]) for atypical coverage
   .
   # Mental status
 Likely [**12-31**] ventriculomegaly and hydrocephalus, may
   also be a component of delirium secondary to her PNA and hypoxemia.
   Drain placed by neuronsurg for non-communicating hydrocephalus in
   setting of recent subarachnoid hemorrhage.  Most recent CT head stable.
   - f/u neurosurgery rec
   - try to wean down sedatives as tolerated
   .
   # Fevers:
   - Concern for vanco-resistant s.aureus pneumonia; consult ID re:
   addition of linezolid to antibiotic regimen
   - Check LFT
s (abdomen benign on exam)
   - Consider drug fever
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. Currently low
   suspicion for cardiac etiology of her respiratory distress.  She does
   have chronic ST depressions which do not appear to be significantly
   worse during this admission.
   - CE
s as necessary, particularly for diaphoretic episodes given that
   the patient is unable to articulate CP.
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Neurosurgery comfortable with re-starting ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement.
   .
   # PUMP:  Systolic congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  Pt still appears to be volume
   overloaded.
   - Continue diuresis today with goal UOP of -100 ccs/hr (~1L net
   negative today goal)
   - Continue Lisinopril, Carvedilol, hold for hypotension
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was in 20s, however pt with 4 point crit drop recently. Iron 49,
   Ferritin 1828, TIBC 176
 anemia of chronic disease picture with
   extremely high ferritin.  Will not transfuse today given that she does
   not appear to have active ischemia.
   - maintain active T&S
   - follow daily Hct
   - guaiac stools
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, however wound
   culture showed sparse and rare growth coag negative Staph.
   -Continue wound care
   -Continue Vancomycin.
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -d/c home fentanyl patch, as pt on Fentanyl drip
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs,
   therapeutic dose.  EEG not required now as other etiologies more likely
   for AMS and on therapeutic Keppra.  Neuro signed off.
   .
   # Hyponatremia: Resolved, originally with concern for SIADH in the
   setting of recent head injury.  Cortisol WNL
   ICU Care
   Nutrition: Nutren tube feeds via G tube
   Glycemic Control:  Glargine, ISS
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   PA Catheter - [**2160-8-26**] 11:15 AM
   20 Gauge - [**2160-8-27**] 01:21 PM
   Foley catheter
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: famotidine
   VAP:  elevate HOB, as tolerated by drain
   Comments:
   Communication:  Comments: Communicated with patient
s husband today.
   [**Name2 (NI) **] opening eyes to verbal stimuli, but patient non-verbal as
   intubated.
   Code status: Full code
   Disposition: CCU for now

2160-08-30 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2160-8-29**] 12:45 PM
 BLOOD CULTURED - At [**2160-8-29**] 01:00 PM
 ULTRASOUND - At [**2160-8-29**] 02:13 PM: Normal abdominal ultrasound.
 FEVER - 101.5
C - [**2160-8-29**] 01:00 PM
   BP to 80s systolic, so lasix drip held overnight, and levophed resumed
   and then weaned down as appropriate, so saw taper off in urine output.
   Diarrhea overnight.
   Per pulm, try to decrease RR to help acid/base status.
   Tried to wean FiO2 from 50 to 40 and patient desatted to high 80s/low
   90s so respiratory recommended back up to 50.
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Azithromycin - [**2160-8-29**] 11:30 AM
   Vancomycin - [**2160-8-29**] 09:36 PM
   Meropenem - [**2160-8-30**] 02:57 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-8-30**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-30**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.2
C (99
   HR: 75 (71 - 95) bpm
   BP: 122/47(70) {75/32(44) - 153/58(90)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 5 (1 - 10)mmHg
   PAP: (52 mmHg) / (21 mmHg)
   ICP: 7 (0 - 9) mmHg
   Total In:
                                                                  3,239 mL
                                                                    492 mL
   PO:
   TF:
                                                                  1,300 mL
                                                                    245 mL
   IVF:
                                                                  1,709 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                  3,704 mL
                                                                    337 mL
   Urine:
                                                                  3,642 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
                                                                     62 mL
                                                                     42 mL
   Balance:
                                                                   -465 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PRVC/AC
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.45/58/137/40/14
   Ve: 8.1 L/min
   PaO2 / FiO2: 274
   Physical Examination
   GEN: NAD, intubated.
   CV: III/VI SEM loudest at base
   PULM: CTAB but difficult to ascertain due to vent
   ABD: Soft, NT, ND
   EXTR: No edema
   NEURO: Grimaces to painful stimuli. Does not move/track to verbal
   stimuli.
   Labs / Radiology
   196 K/uL
   7.2 g/dL
   228 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   26 mg/dL
   96 mEq/L
   139 mEq/L
   22.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2160-8-28**]  04:58 AM
                             [**2160-8-28**]  12:37 PM
                             [**2160-8-28**]  03:38 PM
                             [**2160-8-29**]  04:30 AM
                             [**2160-8-29**]  04:31 AM
                             [**2160-8-29**]  06:29 AM
                             [**2160-8-29**]  05:03 PM
                             [**2160-8-29**]  05:21 PM
                             [**2160-8-30**]  04:06 AM
                             [**2160-8-30**]  04:28 AM
   WBC
   4.6
   4.3
   4.5
   5.8
   Hct
   22.2
   22.7
   21.9
   22.3
   22.1
   Plt
   189
   179
   191
   196
   Cr
   0.5
   0.5
   0.6
   0.6
   TropT
   0.02
   0.02
   TCO2
   36
   45
   44
   45
   42
   Glucose
   171
   194
   128
   228
   Other labs: PT / PTT / INR:12.8/23.6/1.1, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:23/38, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:61.9 %, Lymph:30.2 %, Mono:2.2 %, Eos:5.2 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:486 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.  Appreciate ID/Pulm recs.
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Now that we have
   diuresed, less cardiogenic concern for respiratory distress, most
   concerning for pneumonia or infected effusion.
   - Continue AC ventilation with pressure support, will attempt to wean
   FiO2 yet again today (although unsuccessful due to desats x2 days now)
   - Pt spiked again yesterday, will re-culture daily and follow for
   growth
   - CXR today
   - Continue lasix drip with goal: 100 ccs/hr, as tolerated by BP
   - Albuterol and Ipratropium PRN shortness of breath
   - Cont Vanc (started [**8-21**]), Meropenem (started [**8-23**]) for hx of MRSA and
   recent klebsiella in sputum
   - Today is last day of 5-day course of Azithromycin (started [**8-26**]) for
   atypical coverage
   .
   # Fevers
 considering pneumonia as most likely source thus far (no
   significant change to LFT
s over past week, CSF without significant
   growth)
   - Concern for vanco-resistant s.aureus pneumonia; re-consult ID re:
   addition of linezolid to antibiotic regimen
   - CT torso to find potential source for fevers (with IV and PO
   contrast)
   - U/S thorax to examine if pleural effusions could be tapped as
   potential infectious source
   - Repeat sputum culture, per pulm
   - Consider drug fever
   - F/u stool for c.diff
   - F/u blood and urine cultures
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. Currently low
   suspicion for cardiac etiology of her respiratory distress.  She does
   have chronic ST depressions which do not appear to be significantly
   worse during this admission.
   - CE
s as necessary, particularly for diaphoretic episodes given that
   the patient is unable to articulate CP.
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Neurosurgery comfortable with re-starting ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement.
   .
   # PUMP:  Systolic congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  Pt still appears to be volume
   overloaded. Did not meet diuresis goal yesterday due to lower BP that
   prohibited giving lasix and actually meant patient went back onto
   levophed now (but being weaned back down).
   - Diuresis today trailing off, with goal UOP of even to (-)500cc/day
   - Continue Lisinopril, Carvedilol, hold for hypotension
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was in 20s, however pt with 4 point crit drop recently. Iron 49,
   Ferritin 1828, TIBC 176
 anemia of chronic disease picture with
   extremely high ferritin.  Will not transfuse today given that she does
   not appear to have active ischemia.
   - maintain active T&S
   - follow daily Hct
   - guaiac stools
   .
   # Mental status
 Likely [**12-31**] ventriculomegaly and hydrocephalus, may
   also be a component of delirium secondary to her PNA and hypoxemia.
   Drain placed by neurosurgery for non-communicating hydrocephalus in
   setting of recent subarachnoid hemorrhage.  Most recent CT head stable.
   - f/u neurosurgery rec
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, however wound
   culture showed sparse and rare growth coag negative Staph.
   -Continue wound care
   -Continue Vancomycin.
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -d/c home fentanyl patch, as pt on Fentanyl drip
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs,
   therapeutic dose.  EEG not required now as other etiologies more likely
   for AMS and on therapeutic Keppra.  Neuro signed off.
   .
   # Hyponatremia: Resolved, originally with concern for SIADH in the
   setting of recent head injury.  Cortisol WNL
   .
   # Electrolytes
 repleted K this AM
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-8-29**] 07:47 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   PA Catheter - [**2160-8-26**] 11:15 AM
   20 Gauge - [**2160-8-27**] 01:21 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: famotidine
   VAP:  elevate HOB, as tolerated by neurosurgical drain
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   ATTENDING PROGRESS NOTE
   I have reviewed the Progress Note by Dr. [**Last Name (STitle) 10453**] today and I concur with
   the history, physical examination, assessment and treatment plan.   My
   examination is consistent with Dr. [**Last Name (STitle) 10453**]
s examination.  Mrs. [**Known lastname 9447**]
   is a 70 year old women who is well known to the CCU due to a prolonged
   hospitalization following a motor vehicle accident complicated an
   intracranial hemorrhage, prolonged ventilatory dependence, fever of
   unknown origin, anemia, and known coronary artery disease.  She is
   being followed by both pulmonary and infectious disease services.   We
   will plan reculture of the MRSA sputum samples to assess drug
   resistance and look for occult sources of an abscess.   Her prognosis
   for long-term recovery remains uncertain.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] [**Pager number 10477**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2160-8-30**] 14:03 ------

2160-08-31 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress, concern for PNA vs volume
   overload vs fibrotic lung disease/ARDS
   24 Hour Events:
 PA CATHETER - STOP [**2160-8-30**] 03:32 PM
 MULTI LUMEN - START [**2160-8-30**] 07:19 PM
   -Weaned FIO2 to 45%, then 40%.
   -L IJ placed, swan pulled
   -Lasix 60mg IV bid
   -CT chest:
   Diffuse bilateral ground-glass opacity and interlobular septal
   thickening
   with mild improvement in the basilar confluent opacification and
   bilateral
   pleural effusions with small residual right pleural effusion.
   Differential
   considerations are wide and include pulmonary edema, ARDS, in the right
   clinical setting pulmonary hemorrhage and PCP [**Name Initial (PRE) 2443**]. Concomitant
   superimposed bacterial pneumonia also remains a potential
   consideration.
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Azithromycin - [**2160-8-29**] 11:30 AM
   Vancomycin - [**2160-8-30**] 08:25 PM
   Meropenem - [**2160-8-31**] 02:17 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-8-30**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2160-8-30**] 08:45 AM
   Furosemide (Lasix) - [**2160-8-30**] 08:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-8-31**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.5
C (97.7
   HR: 85 (66 - 92) bpm
   BP: 119/48(71) {98/37(54) - 152/94(109)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 2 (1 - 6)mmHg
   PAP: (46 mmHg) / (15 mmHg)
   ICP: 6 (1 - 9) mmHg
                                Total In:
                                                                  2,551 mL
                                                                    205 mL
   PO:
                                TF:
                                                                  1,257 mL
                                                                     94 mL
   IVF:
                                                                  1,164 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,716 mL
                                                                    965 mL
   Urine:
                                                                  1,590 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
                                                                    126 mL
                                                                     15 mL
   Balance:
                                                                    835 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PRVC/AC
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.40/58/81.[**Numeric Identifier 218**]/33/8
   Ve: 10.7 L/min
   PaO2 / FiO2: 180
   Physical Examination
   GEN: NAD, intubated.
   CV: III/VI SEM loudest at base, RRR
   PULM: Coarse breath sounds, rhonchi bilaterally
   ABD: Soft, NT, ND
   EXTR: No edema
   NEURO: Opens eyes to voice
   Labs / Radiology
   200 K/uL
   7.2 g/dL
   154 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   20 mg/dL
   97 mEq/L
   135 mEq/L
   22.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2160-8-29**]  06:29 AM
                             [**2160-8-29**]  05:03 PM
                             [**2160-8-29**]  05:21 PM
                             [**2160-8-30**]  04:06 AM
                             [**2160-8-30**]  04:28 AM
                             [**2160-8-30**]  04:46 PM
                             [**2160-8-30**]  04:59 PM
                             [**2160-8-31**]  01:49 AM
                             [**2160-8-31**]  05:05 AM
                             [**2160-8-31**]  05:21 AM
   WBC
   4.5
   5.8
   5.9
   Hct
   22.3
   22.1
   22.1
   Plt
   191
   196
   200
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   44
   45
   42
   39
   37
   37
   Glucose
   128
   228
   182
   154
   Other labs: PT / PTT / INR:12.8/23.6/1.1, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:23/38, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:60.0 %, Band:10.0 %, Lymph:20.0 %, Mono:6.0 %,
   Eos:4.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:486 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.  Appreciate ID/Pulm recs.
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Now that we have
   diuresed, less cardiogenic concern for respiratory distress, most
   concerning for pneumonia or infected effusion.   CT prelim read
   indicates infectious vs. inflammatory.  Mini BAL results pending.
   - f/u final CT read.
   - Consider adding Bactrim to cover PCP
   [**Name Initial (PRE) **] Continue AC ventilation with pressure support, will attempt to wean
   FiO2 yet again today (although unsuccessful due to desats x2 days now),
   switch to pressure support if pt over-breathing vent
   - Pt spiked again yesterday, will re-culture daily and follow for
   growth
   - CXR today
   - Continue lasix drip with goal: 100 ccs/hr, as tolerated by BP, goal
   even-negative 500cc.
   - Albuterol and Ipratropium PRN shortness of breath
   - Cont Vanc (started [**8-21**]), Meropenem (started [**8-23**]) for hx of MRSA and
   recent klebsiella in sputum
   - Will consider adding bactrim for PCP coverage, will arrange
   multi-disp meeting with pulm and ID tomorrow
   .
   # Fevers
 considering pneumonia as most likely source thus far (no
   significant change to LFT
s over past week, CSF without significant
   growth)
   - Concern for vanco-resistant s.aureus pneumonia; re-consult ID re:
   addition of linezolid to antibiotic regimen
   - CT torso to find potential source for fevers (with IV and PO
   contrast)
   - U/S thorax to examine if pleural effusions could be tapped as
   potential infectious source
   - Repeat sputum culture, per pulm
   - Consider drug fever
   - F/u stool for c.diff
   - F/u blood and urine cultures
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. Currently low
   suspicion for cardiac etiology of her respiratory distress.  She does
   have chronic ST depressions which do not appear to be significantly
   worse during this admission.
   - CE
s as necessary, particularly for diaphoretic episodes given that
   the patient is unable to articulate CP.
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Neurosurgery comfortable with re-starting ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement.
   .
   # PUMP:  Systolic congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  Pt still appears to be volume
   overloaded. Did not meet diuresis goal yesterday due to lower BP that
   prohibited giving lasix and actually meant patient went back onto
   levophed now (but being weaned back down).
   - Diuresis today trailing off, with goal UOP of even to (-)500cc/day
   - Continue Lisinopril, Carvedilol, hold for hypotension
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was in 20s, however pt with 4 point crit drop recently. Iron 49,
   Ferritin 1828, TIBC 176
 anemia of chronic disease picture with
   extremely high ferritin.  Will not transfuse today given that she does
   not appear to have active ischemia.
   - maintain active T&S
   - follow daily Hct
   - guaiac stools
   .
   # Mental status
 Likely [**12-31**] ventriculomegaly and hydrocephalus, may
   also be a component of delirium secondary to her PNA and hypoxemia.
   Drain placed by neurosurgery for non-communicating hydrocephalus in
   setting of recent subarachnoid hemorrhage.  Most recent CT head stable.
   - f/u neurosurgery rec
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, however wound
   culture showed sparse and rare growth coag negative Staph.
   -Continue wound care
   -Continue Vancomycin.
   .
   #  Multiple fractures seen on x-ray: Patient is scheduled to be seen in
   orthopedic clinic in [**2160-8-28**] here at [**Hospital1 19**].
   -d/c home fentanyl patch, as pt on Fentanyl drip
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs,
   therapeutic dose.  EEG not required now as other etiologies more likely
   for AMS and on therapeutic Keppra.  Neuro signed off.
   .
   # Hyponatremia: Resolved, originally with concern for SIADH in the
   setting of recent head injury.  Cortisol WNL
   .
   # Electrolytes
 repleted K this AM
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-8-29**] 07:47 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Left IJ
 placed [**2160-8-30**]
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: famotidine
   VAP:  elevate HOB, as tolerated by neurosurgical drain
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now

2160-09-01 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Mental status
   change.
   24 Hour Events:
   Mental status change early this morning: patient unresponsive to
   painful stimuli, not moving extremities. Patient pan-cultured and
   neurosurgery notified, stat head CT ordered.
   Patient with visible increased work of breathing this morning.
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Azithromycin - [**2160-8-29**] 11:30 AM
   Meropenem - [**2160-8-31**] 08:21 PM
   Vancomycin - [**2160-8-31**] 08:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-8-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-9-1**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-1**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 85 (76 - 97) bpm
   BP: 131/50(75) {74/36(54) - 145/58(87)} mmHg
   RR: 24 (20 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    ICP: 5 (1 - 7) mmHg
   Total In:
                                                                  2,486 mL
                                                                    372 mL
   PO:
   TF:
                                                                    843 mL
                                                                    234 mL
   IVF:
                                                                  1,223 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  3,360 mL
                                                                    298 mL
   Urine:
                                                                  2,810 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
                                                                     13 mL
   Balance:
                                                                   -874 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (340 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.34/58/95.[**Numeric Identifier 143**]/29/3
   Ve: 10.2 L/min
   PaO2 / FiO2: 96
   Physical Examination
   GEN: increased work of breathing apparent as upper chest heaves with
   inspiration.
   CV: RRR, no m/r/g
   PULM: difficult to auscultate over ventilator sounds
   ABD: soft, +BS, NT, ND
   NEURO: not squeeze hand on command.
   EXTR; 2+dp B/L, feet warm and well perfused.
   Labs / Radiology
   240 K/uL
   7.4 g/dL
   164 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.4 mEq/L
   21 mg/dL
   101 mEq/L
   136 mEq/L
   22.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2160-8-29**]  05:21 PM
                             [**2160-8-30**]  04:06 AM
                             [**2160-8-30**]  04:28 AM
                             [**2160-8-30**]  04:46 PM
                             [**2160-8-30**]  04:59 PM
                             [**2160-8-31**]  01:49 AM
                             [**2160-8-31**]  05:05 AM
                             [**2160-8-31**]  05:21 AM
                             [**2160-9-1**]  03:54 AM
                             [**2160-9-1**]  04:13 AM
   WBC
   5.8
   5.9
   6.5
   Hct
   22.1
   22.1
   22.3
   Plt
   196
   200
   240
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   45
   42
   39
   37
   37
   33
   Glucose
   [**Telephone/Fax (3) 10503**]64
   Other labs: PT / PTT / INR:11.7/33.4/1.0, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:23/38, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:486 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Micro: Mini-BAL: No PCP, [**Name10 (NameIs) 72**], legionella identified. Stool
 c.diff
   negative.
   Radiology:
   Chest CT - Diffuse bilateral ground-glass opacity and interlobular
   septal thickening is slightly improved. Extensive mediastinal
   adenopathy may be reactive to the inflammatory and infectious process
   involving the lungs.
   CXR [**8-31**]: The diffuse interstitial and ground-glass pulmonary
   abnormality seen on chest CT on [**8-26**] has been subsequently
   stable. Heart is not particularly enlarged and pleural effusion, if
   any, is small and unchanged. Tracheostomy
   tube is in standard placement, left jugular line ends low in the SVC.
   Right jugular sheath and Swan-Ganz catheter have been removed. No
   pneumothorax.
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.  Patient with mental status change
   this morning.
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Now that we have
   diuresed, less cardiogenic concern for respiratory distress, most
   concerning for pneumonia or infected effusion.   CT read indicates
   infectious vs. inflammatory.
   - Continue AC ventilation with pressure support
   - Goal I&O: even to negative 500cc.; lasix prn to achieve goal
   - Albuterol and Ipratropium PRN shortness of breath
   - Cont Vanc (started [**8-21**]), Meropenem (started [**8-23**]) for hx of MRSA and
   recent klebsiella in sputum
   - Will consider adding bactrim for PCP [**Name Initial (PRE) 10504**] (although negative on
   mini-BAL)
   - Arrange multi-disciplinary meeting with pulm and ID today regarding
   lung disease and inability to wean off of the vent
   .
   # Fevers
 considering pneumonia as most likely source thus far (no
   significant change to LFT
s over past week, CSF without significant
   growth)
   - Concern for vanco-resistant s.aureus pneumonia; re-consult ID re:
   addition of linezolid to antibiotic regimen
   - F/u blood and urine cultures
   - Diarrhea decreasing, but resend c.diff nonetheless
   .
   # Mental status
 Acute change this morning with decreased response to
   pain and not moving extremities. Likely contributors include:
   ventriculomegaly, hydrocephalus, delirium secondary to PNA and
   hypoxemia, subarachnoid hemorrhage.
   - f/u neurosurgery rec
   - f/u stat head CT
   - f/u cultures
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. Currently low
   suspicion for cardiac etiology of her respiratory distress.  She does
   have chronic ST depressions which do not appear to be significantly
   worse during this admission.
   - CE
s as necessary if clinically indicated
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Continue ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement.
   .
   # PUMP:  Systolic congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  Pt still appears to be volume
   overloaded. Did not meet diuresis goal yesterday due to lower BP that
   prohibited giving lasix and actually meant patient went back onto
   levophed now (but being weaned back down).
   - Diuresis today trailing off, with goal UOP of even to (-)500cc/day
   - Continue Lisinopril, Carvedilol, hold for hypotension
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was in 20s, however pt with 4 point crit drop on [**8-27**].
   Iron 49, Ferritin 1828, TIBC 176
 anemia of chronic disease picture
   with extremely high ferritin.  Will not transfuse today given that she
   does not appear to have active ischemia; Hct stable in 22 range.
   - maintain active T&S
   - follow daily Hct
   - guaiac stools
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, however wound
   culture showed sparse and rare growth coag negative Staph.
   -Continue wound care
   -Continue Vancomycin.
   .
   #  Multiple fractures seen on x-ray:
   - Fentanyl drip covering
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs. EEG
   not required now as other etiologies more likely for AMS and on
   therapeutic Keppra.  Neuro signed off.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2160-8-31**] 04:54 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM (Left IJ)
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: famotidine
   VAP:  elevate HOB, as tolerated by neurosurgical drain
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   ATTENDING PROGRESS NOTE
   I have reviewed the Progress Note by Dr. [**Last Name (STitle) 10453**] today and I concur with
   the history, physical examination, assessment and treatment plan.
   Mrs. [**Known lastname 9447**] is a 70 year old women who is well known to the CCU due to
   a prolonged hospitalization following a motor vehicle accident
   complicated an intracranial hemorrhage, prolonged ventilatory
   dependence, fever of unknown origin, anemia, and known coronary artery
   disease.  She is being followed by both pulmonary and infectious
   disease services.
   Her fevers and ventilatory requirements are slightly improved, but she
   remains critically ill.
   We have asked pulmonary to evaluate the need for bronchoscopy is an
   effort to exclude other infectious or inflammatory processes.
   Her prognosis for long-term recovery remains uncertain.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] [**Pager number 10477**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2160-9-1**] 21:25 ------

2160-09-02 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CT - no significant change (head)
   In the afternoon, temp up to 100.6.
   Hypotensive to 70s in the afternoon, put back on levophed and give 2x
   250cc bolus (SBP response = up to 90s).
   As a result, pulm deferred BAL/bronchoscopy to when patient
   hemodynamically stable and off of levophed - they are unclear what the
   diagnosis is, and have a very broad differential.
   ABG
s this morning
 more acidemic with increased CO2:
   7.27/74/119 then increased RR
   7.31/64/125 then increased TV from 350 to 370 (saw she was breathing in
   excess volume greater than the 350 TV was set at)
   Just called by radiology: pneumopericardium present on this morning
   chest x-ray that was not present yesterday, otherwise CXR
   stable/improved
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-1**] 08:34 PM
   Meropenem - [**2160-9-2**] 02:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-9-1**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2160-9-2**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-2**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 68 (63 - 101) bpm
   BP: 100/35(54) {79/28(43) - 158/64(92)} mmHg
   RR: 26 (10 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 0 (0 - 9)mmHg
   ICP: 2 (0 - 6) mmHg
   Mixed Venous O2% Sat: 69 - 69
                                Total In:
                                                                  2,409 mL
                                                                    489 mL
   PO:
                                TF:
                                                                    654 mL
                                                                    222 mL
   IVF:
                                                                  1,656 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,414 mL
                                                                    243 mL
   Urine:
                                                                  1,355 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
                                                                     59 mL
                                                                     13 mL
   Balance:
                                                                    995 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 30
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.27/74/119/32/3
   Ve: 11.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GEN: Work of breathing tremendous, as upper body moves with each
   breath.
   CV: II/VI SEM
   PULM: CTAB but difficult to auscultate due to ventilator
   CHEST: no sternal instability or crepitus
   ABD: soft, NT, ND
   EXTR: Warm, no edema, well perfused
   NEURO: opens eyes spontaneously
   Labs / Radiology
   251 K/uL
   6.9 g/dL
   167 mg/dL
   0.4 mg/dL
   32 mEq/L
   3.7 mEq/L
   23 mg/dL
   104 mEq/L
   141 mEq/L
   22.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2160-8-31**]  01:49 AM
                             [**2160-8-31**]  05:05 AM
                             [**2160-8-31**]  05:21 AM
                             [**2160-9-1**]  03:54 AM
                             [**2160-9-1**]  04:13 AM
                             [**2160-9-1**]  10:02 AM
                             [**2160-9-1**]  03:48 PM
                             [**2160-9-2**]  04:41 AM
                             [**2160-9-2**]  05:06 AM
                             [**2160-9-2**]  05:39 AM
   WBC
   5.9
   6.5
   6.4
   Hct
   22.1
   22.3
   21.7
   22.1
   Plt
   200
   240
   251
   Cr
   0.5
   0.5
   0.4
   TCO2
   37
   37
   33
   31
   37
   35
   Glucose
   154
   164
   167
   Other labs: PT / PTT / INR:12.6/31.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:23/38, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:486 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.  Having tremendous difficulty
   weaning patient off of the ventilator due to desat
s and/or hypotensive
   episodes when try to alter physiology.
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Now that we have
   diuresed, less cardiogenic concern for respiratory distress, most
   concerning for pneumonia or infected effusion.   CT read indicates
   infectious vs. inflammatory. Concern for pneumopericardium (potentially
   from tracheostomy site, prior CABG, mediastinitis). Patient academic
   with increased CO2 retained on ABG this morning, unclear reason why
   (perhaps infection, over-diuresis, hypotension):
   - Continue AC ventilation with pressure support, monitor newly
   increased RR and TV
   - Goal I&O: even today; lasix 60mg [**Hospital1 **] and then additional prn to
   achieve goal
   - Albuterol and Ipratropium PRN shortness of breath
   - Cont Vanc (started [**8-21**]) for hx of MRSA and recent klebsiella in
   sputum
   - per pharmacy, changed vanc dose from 750mg q12h to 1250mg daily
   - check vanco trough [**9-4**] (Thursday) morning before [**9-4**]
s AM dose
   - discontinue Meropenem following today
s doses (started [**8-23**]) as today
   is day #[**9-6**]
   - arrange multi-disciplinary meeting with pulm and ID today regarding
   lung disease and inability to wean off of the vent
   - f/u bronch/BAL today
   - echo today, focused on pedicardial region
   - CT chest today
   - f/u ABG this AM
   - d/c diamox now that significant diuresis completed and now that
   patient academic this morning
   .
   # Fevers
 considering pneumonia as most likely source thus far (no
   significant change to LFT
s over past week, CSF without significant
   growth, negative mini-BAL, no obvious skin wounds, c.diff negative)
   - Concern for vanco-resistant s.aureus pneumonia; re-consult ID re:
   addition of linezolid to antibiotic regimen
   - F/u blood and urine cultures
   .
   # Mental status
 Stable over past 24 hours grossly, following acute
   change yesterday morning with decreased response to pain and not moving
   extremities. Likely contributors include: ventriculomegaly,
   hydrocephalus, delirium secondary to PNA and hypoxemia, subarachnoid
   hemorrhage.
   - f/u neurosurgery rec
   - f/u cultures
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. Currently low
   suspicion for cardiac etiology of her respiratory distress.  She does
   have chronic ST depressions which do not appear to be significantly
   worse during this admission.
   - CE
s as necessary if clinically indicated
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Continue ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement
   .
   # PUMP:  Systolic congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  Pt still appears to be volume
   overloaded. Balancing between diuresis, hypotension, and overdiuresis.
   - Goal even I
s & O
s today; Lasix 60mg [**Hospital1 **] and prn if needed to
   achieve this goal
   - Continue Lisinopril, Carvedilol, hold for hypotension
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was in 20s, however pt with 4 point crit drop on [**8-27**].
   Iron 49, Ferritin 1828, TIBC 176
 anemia of chronic disease picture
   with extremely high ferritin.  Will not transfuse today given that she
   does not appear to have active ischemia; Hct stable in 22 range.
   - maintain active T&S
   - follow daily Hct
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, however wound
   culture showed sparse and rare growth coag negative Staph.
   -Continue wound care
   -Continue Vancomycin.
   .
   #  Multiple fractures seen on x-ray:
   - Fentanyl drip covering
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs. EEG
   not required now as other etiologies more likely for AMS and on
   therapeutic Keppra.  Neuro signed off.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-1**] 05:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: husband at bedside, plan to discuss with him
   today
   Code status: Full code
   Disposition: ICU level care required
   ------ Protected Section ------
   I have reviewed the Progress Note by Dr. [**Last Name (STitle) 10453**] today and I concur with
   the history, physical examination, assessment and treatment plan.   My
   examination today is consistent with the examination noted above.
   Mrs. [**Known lastname 9447**] is a 70 year old women who is well known to the CCU due to
   a prolonged hospitalization following a motor vehicle accident
   complicated an intracranial hemorrhage, prolonged ventilatory
   dependence, fever of unknown origin, anemia, and known coronary artery
   disease.  She is being followed by both pulmonary and infectious
   disease services.
   She has developed a pnuemo-mediastinum potential due to a localized
   pneumothorax that precluded bronchoscopy today.   We will continue her
   aggressive ventilatory support.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] [**Pager number 10477**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2160-9-2**] 20:23 ------

2160-09-03 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2160-9-2**] 10:30 AM
   -Bronch held as pt has air in pericardium and mediastinum
   -CT chest showed interstitial pulmonary emphysema and air in
   mediastinum and small amount of air in pericardium c/w barotrauma
   -TTE showed suboptimal quality but no pericardial effusion
   -Started Bactrim and Prednisone for empiric PCP tx per Pulm
   -Yeast in UCx
   -PMNs but no microorganisms on sputum gram stain
   -MAP high 40's with SBP 70's, neurosurgery told nurse to keep SBP>90,
   transiently on Norepi at 5mg/hr and shortly thereafter d/c'ed as BP
   >100.
   -0500 on [**9-3**]: respiratory distress while being turned, hypertensive,
   tachy, FiO2 increased to 100%, transiently increased sats.  To MICU
   today if bed available.
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-2**] 08:25 AM
   Bactrim (SMX/TMP) - [**2160-9-2**] 10:00 PM
   Meropenem - [**2160-9-3**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-9-2**] 08:23 AM
   Famotidine (Pepcid) - [**2160-9-2**] 08:25 AM
   Furosemide (Lasix) - [**2160-9-3**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-3**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 87 (64 - 91) bpm
   BP: 121/44(72) {87/31(50) - 162/54(91)} mmHg
   RR: 21 (12 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 3 (3 - 6)mmHg
   ICP: 2 (-2 - 6) mmHg
                                Total In:
                                                                  2,588 mL
                                                                    522 mL
   PO:
                                TF:
                                                                    527 mL
                                                                    238 mL
   IVF:
                                                                  1,822 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  1,688 mL
                                                                    339 mL
   Urine:
                                                                  1,640 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
                                                                     48 mL
                                                                      9 mL
   Balance:
                                                                    900 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 370) mL
   Vt (Spontaneous): 478 (402 - 488) mL
   PS : 15 cmH2O
   RR (Set): 32
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.26/67/177/35/1
   Ve: 10.8 L/min
   PaO2 / FiO2: 177
   Physical Examination
   GEN: Work of breathing tremendous, as upper body moves with each
   breath.
   CV: II/VI SEM
   PULM: CTAB but difficult to auscultate due to ventilator
   CHEST: no sternal instability or crepitus
   ABD: soft, NT, ND
   EXTR: Warm, no edema, well perfused
   NEURO: opens eyes spontaneously
   Labs / Radiology
   357 K/uL
   7.9 g/dL
   291
   0.6 mg/dL
   35 mEq/L
   4.9 mEq/L
   26 mg/dL
   99 mEq/L
   136 mEq/L
   24.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2160-9-2**]  04:41 AM
                             [**2160-9-2**]  05:06 AM
                             [**2160-9-2**]  05:39 AM
                             [**2160-9-2**]  06:23 AM
                             [**2160-9-2**]  10:22 AM
                             [**2160-9-2**]  02:06 PM
                             [**2160-9-3**]  03:30 AM
                             [**2160-9-3**]  04:54 AM
                             [**2160-9-3**]  06:00 AM
                             [**2160-9-3**]  06:28 AM
   WBC
   6.4
   8.8
   Hct
   22.1
   24.7
   Plt
   251
   357
   Cr
   0.4
   0.6
   TCO2
   37
   35
   34
   38
   32
   26
   31
   Glucose
   167
   229
   291
   Other labs: PT / PTT / INR:12.6/31.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:23/38, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:486 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.  Having tremendous difficulty
   weaning patient off of the ventilator due to desat
s and/or hypotensive
   episodes when try to alter physiology.
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Now that we have
   diuresed, less cardiogenic concern for respiratory distress, most
   concerning for pneumonia or infected effusion.   CT read indicates
   infectious vs. inflammatory. Concern for pneumopericardium (potentially
   from tracheostomy site, prior CABG, mediastinitis). Patient academic
   with increased CO2 retained on ABG this morning, unclear reason why
   (perhaps infection, over-diuresis, hypotension):
   - Continue AC ventilation with pressure support, monitor newly
   increased RR and TV
   - Goal I&O: even today; lasix 60mg [**Hospital1 **] and then additional prn to
   achieve goal
   - Albuterol and Ipratropium PRN shortness of breath
   - Cont Vanc (started [**8-21**]) for hx of MRSA and recent klebsiella in
   sputum
   - per pharmacy, changed vanc dose from 750mg q12h to 1250mg daily
   - check vanco trough [**9-4**] (Thursday) morning before [**9-4**]
s AM dose
   - discontinue Meropenem following today
s doses (started [**8-23**]) as today
   is day #[**9-6**]
   - arrange multi-disciplinary meeting with pulm and ID today regarding
   lung disease and inability to wean off of the vent
   - f/u bronch/BAL today
   - echo today, focused on pedicardial region
   - CT chest today
   - f/u ABG this AM
   - d/c diamox now that significant diuresis completed and now that
   patient academic this morning
   .
   # Fevers
 considering pneumonia as most likely source thus far (no
   significant change to LFT
s over past week, CSF without significant
   growth, negative mini-BAL, no obvious skin wounds, c.diff negative)
   - Concern for vanco-resistant s.aureus pneumonia; re-consult ID re:
   addition of linezolid to antibiotic regimen
   - F/u blood and urine cultures
   .
   # Mental status
 Stable over past 24 hours grossly, following acute
   change yesterday morning with decreased response to pain and not moving
   extremities. Likely contributors include: ventriculomegaly,
   hydrocephalus, delirium secondary to PNA and hypoxemia, subarachnoid
   hemorrhage.
   - f/u neurosurgery rec
   - f/u cultures
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. Currently low
   suspicion for cardiac etiology of her respiratory distress.  She does
   have chronic ST depressions which do not appear to be significantly
   worse during this admission.
   - CE
s as necessary if clinically indicated
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Continue ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement
   .
   # PUMP:  Systolic congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  Pt still appears to be volume
   overloaded. Balancing between diuresis, hypotension, and overdiuresis.
   - Goal even I
s & O
s today; Lasix 60mg [**Hospital1 **] and prn if needed to
   achieve this goal
   - Continue Lisinopril, Carvedilol, hold for hypotension
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was in 20s, however pt with 4 point crit drop on [**8-27**].
   Iron 49, Ferritin 1828, TIBC 176
 anemia of chronic disease picture
   with extremely high ferritin.  Will not transfuse today given that she
   does not appear to have active ischemia; Hct stable in 22 range.
   - maintain active T&S
   - follow daily Hct
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, however wound
   culture showed sparse and rare growth coag negative Staph.
   -Continue wound care
   -Continue Vancomycin.
   .
   #  Multiple fractures seen on x-ray:
   - Fentanyl drip covering
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs. EEG
   not required now as other etiologies more likely for AMS and on
   therapeutic Keppra.  Neuro signed off.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-1**] 05:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: husband at bedside, plan to discuss with him
   today
   Code status: Full code
   Disposition: ICU level care required

2160-09-03 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2160-9-2**] 10:30 AM
   -Bronch held as pt has air in pericardium and mediastinum
   -CT chest showed interstitial pulmonary emphysema and air in
   mediastinum and small amount of air in pericardium c/w barotrauma
   -TTE showed suboptimal quality but no pericardial effusion
   -Started Bactrim and Prednisone for empiric PCP tx per Pulm
   -Yeast in UCx
   -PMNs but no microorganisms on sputum gram stain
   -MAP high 40's with SBP 70's, neurosurgery told nurse to keep SBP>90,
   transiently on Norepi at 5mg/hr and shortly thereafter d/c'ed as BP
   >100.
   -0500 on [**9-3**]: respiratory distress while being turned, hypertensive,
   tachy, FiO2 increased to 100%, transiently increased sats.  To MICU
   today if bed available.
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-2**] 08:25 AM
   Bactrim (SMX/TMP) - [**2160-9-2**] 10:00 PM
   Meropenem - [**2160-9-3**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-9-2**] 08:23 AM
   Famotidine (Pepcid) - [**2160-9-2**] 08:25 AM
   Furosemide (Lasix) - [**2160-9-3**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-3**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 68 (64 - 91) bpm
   BP: 83/32(49) {83/31(49) - 162/54(91)} mmHg
   RR: 20 (12 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 3 (3 - 6)mmHg
   ICP: 2 (-2 - 6) mmHg
                                Total In:
                                                                  2,588 mL
                                                                    573 mL
   PO:
                                TF:
                                                                    527 mL
                                                                    272 mL
   IVF:
                                                                  1,822 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,688 mL
                                                                    339 mL
   Urine:
                                                                  1,640 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
                                                                     48 mL
                                                                      9 mL
   Balance:
                                                                    900 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 300 (300 - 370) mL
   Vt (Spontaneous): 478 (402 - 488) mL
   PS : 15 cmH2O
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.26/67/177/35/1
   Ve: 11.6 L/min
   PaO2 / FiO2: 177
   Physical Examination
   GEN: On vent, sedated
   CV: II/VI SEM, distant heart sounds
   PULM: rhonchorous bilaterally, course breath sounds
   CHEST: no sternal instability or crepitus,
   ABD: soft, NT, ND
   EXTR: Warm, no edema, well perfused
   NEURO: opens eyes spontaneously
   Labs / Radiology
   357 K/uL
   7.9 g/dL
   291
   0.6 mg/dL
   35 mEq/L
   4.9 mEq/L
   26 mg/dL
   99 mEq/L
   136 mEq/L
   24.7 %
   8.8 K/uL
        [image002.jpg] vanc level 26
                             [**2160-9-2**]  04:41 AM
                             [**2160-9-2**]  05:06 AM
                             [**2160-9-2**]  05:39 AM
                             [**2160-9-2**]  06:23 AM
                             [**2160-9-2**]  10:22 AM
                             [**2160-9-2**]  02:06 PM
                             [**2160-9-3**]  03:30 AM
                             [**2160-9-3**]  04:54 AM
                             [**2160-9-3**]  06:00 AM
                             [**2160-9-3**]  06:28 AM
   WBC
   6.4
   8.8
   Hct
   22.1
   24.7
   Plt
   251
   357
   Cr
   0.4
   0.6
   TCO2
   37
   35
   34
   38
   32
   26
   31
   Glucose
   167
   229
   291
   Other labs: PT / PTT / INR:12.6/31.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:23/38, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:486 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   70 yo F with a history of CAD s/p CABG [**2149**], 2 DES in place, AAA,
   severe PVD, known systolic HF who presents with chest pain, shortness
   of breath, transferred from OSH with acute respiratory failure,
   concerning PNA vs volume overload.  Having tremendous difficulty
   weaning patient off of the ventilator due to desat
s and/or hypotensive
   episodes when try to alter physiology.
   .
   #  Respiratory failure: Pt with + sputum cxs for MRSA at outside
   hospital, now with klebsiella on recent BAL.  Now that we have
   diuresed, less cardiogenic concern for respiratory distress, most
   concerning for pneumonia or infected effusion.   CT read indicates
   infectious vs. inflammatory. Concern for pneumopericardium and
   pneumomediastinum based on recent CT (potentially from tracheostomy
   site, prior CABG, mediastinitis).  Patient academic on vent last night,
   switched to CMV again this AM.  Plan to transfer to MICU today.
   Bactrim/steroids started yesterday per pulm recs.
   - Continue CMV
   - Goal I&O: even today; will bolus lasix as needed
   - Albuterol and Ipratropium PRN shortness of breath
   - Continue bactrim and steroids for PCP empiric tx
   - completed course of Vanco and Meropenem
   .
   # Fevers
 no fevers o/n.  Some concern for vanc-resistant pneumonia.
   Blood/urine/CSF cxs negative to date.
   - F/u blood cxs
   - CIS
   - Pulm considering BAL, however held off for now given
   pneumomediastinum/pneumopericardium
   .
   # Mental status
 Stably poor over past 24 hours grossly, does not
   follow commands.  Opens eyes to sternal rub only. Likely contributors
   include: ventriculomegaly, hydrocephalus, delirium secondary to PNA and
   hypoxemia, hx subarachnoid hemorrhage.
   - f/u neurosurgery rec
s, aim to maintain SBP >70
   .
   # CORONARIES:  Patient has known CAD s/p CABG in [**2149**] s/p DES in [**2159**].
   Anatomy is LIMA to diag, SVG-diag, SVG-PDA, SVG-OM. Currently low
   suspicion for cardiac etiology of her respiratory distress.  She does
   have chronic ST depressions which do not appear to be significantly
   worse during this admission.
   - CE
s as necessary if clinically indicated
   - Continue cardiac meds including carvedilol 25mg po bid, 325mg mg po
   daily, Lisinopril 10mg po daily, Atorvastatin 80mg, SL nitro PRN CP.
   - Continue ASA
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement
   .
   # PUMP:  Systolic congestive heart failure. EF 1 month prior was 20%.
   Echo at OSH shows EF 35%, 2+ MR.  Pt still appears to be volume
   overloaded. Balancing between diuresis, hypotension, and overdiuresis.
   - Goal even I
s & O
s today; Lasix 60mg [**Hospital1 **] and prn if needed to
   achieve this goal
   - Continue Lisinopril, Carvedilol, hold for hypotension
   .
   # RHYTHM: Currently NSR.
   - Monitor on telemetry
   .
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was in 20s, however pt with 4 point crit drop on [**8-27**].
   Iron 49, Ferritin 1828, TIBC 176
 anemia of chronic disease picture
   with extremely high ferritin.  Will not transfuse today given that she
   does not appear to have active ischemia; Hct stable in 22 range.
   - maintain active T&S
   - follow daily Hct
   .
   # Scalp hematoma: Re-dressed by neurosurgery, no evidence of active
   bleed or infection.  If infected, pt covered by vanc, however wound
   culture showed sparse and rare growth coag negative Staph.
   -Continue wound care
   -Continue Vancomycin.
   .
   #  Multiple fractures seen on x-ray:
   - Fentanyl drip covering
   .
   #  Depression: Continue prozac
   .
   #  Seizure prophylaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs. EEG
   not required now as other etiologies more likely for AMS and on
   therapeutic Keppra.  Neuro signed off.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-2**] 06:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: husband
   [**Name (NI) 36**] status: Full code
   Disposition:

2160-09-03 20:29:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transferred to MICU for further care.  I have reviewed her chart,
   imaging, micro, and labs; they are as reflected in Dr.[**Name (NI) 10574**] note
   from today.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2160-9-2**] 10:00 PM
   Vancomycin - [**2160-9-3**] 09:20 AM
   Meropenem - [**2160-9-3**] 02:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2160-9-3**] 05:52 AM
   Heparin Sodium (Prophylaxis) - [**2160-9-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-3**] 08:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 94 (64 - 109) bpm
   BP: 117/46(71) {83/32(49) - 155/57(91)} mmHg
   RR: 29 (20 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
   ICP: 8 (-2 - 9) mmHg
   Total In:
                                                                  2,589 mL
                                                                  1,556 mL
   PO:
   TF:
                                                                    527 mL
                                                                    709 mL
   IVF:
                                                                  1,822 mL
                                                                    787 mL
   Blood products:
   Total out:
                                                                  1,688 mL
                                                                  1,169 mL
   Urine:
                                                                  1,640 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
                                                                     48 mL
                                                                     34 mL
   Balance:
                                                                    901 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 447 (402 - 503) mL
   PS : 18 cmH2O
   RR (Set): 32
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 30 cmH2O
   SpO2: 95%
   ABG: 7.29/69/81.[**Numeric Identifier 218**]/35/3
   Ve: 8.6 L/min
   PaO2 / FiO2: 135
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   357 K/uL
   337
   0.6 mg/dL
   35 mEq/L
   4.9 mEq/L
   26 mg/dL
   99 mEq/L
   136 mEq/L
   24.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2160-9-2**]  06:23 AM
                             [**2160-9-2**]  10:22 AM
                             [**2160-9-2**]  02:06 PM
                             [**2160-9-3**]  03:30 AM
                             [**2160-9-3**]  04:54 AM
                             [**2160-9-3**]  06:00 AM
                             [**2160-9-3**]  06:28 AM
                             [**2160-9-3**]  09:00 AM
                             [**2160-9-3**]  10:22 AM
                             [**2160-9-3**]  05:38 PM
   WBC
   8.8
   Hct
   24.7
   Plt
   357
   Cr
   0.6
   TCO2
   34
   38
   32
   26
   31
   35
   35
   Glucose
   [**Telephone/Fax (3) 10575**]
   Other labs: PT / PTT / INR:12.6/31.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:23/38, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:486 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: CCTs all reviewed
   Microbiology: All micro reviewed
   Assessment and Plan
   70-year-old woman with severe respiratory failure following a recent
   admission for polytrauma resulting in trach/vent.  However, her CT near
   discharge was markedly better than present.  Admitted and has had AMI
   as well as hydrocephalus.  She has been diuresed successfully.
   Respiratory failure
   The underlying etiology is far from clear.  The most likely is probably
   ARDS that may be entering the fibroproliferative phase.  Bacterial
   infection seems unlikely as a cause for her current diffuse CT changes,
   though may co-exist and has certainly grown things from respiratory
   samples.  Primary pulmonary parenchymal disease (e.g. DAH, COP,
   eosinophilic disease) is possible though unlikely.  Unusual infections
   (PCP, [**Name10 (NameIs) 10576**], etc.) are in differential though again seem less likely.
   Although she is higher than average risk, I think that the benefits of
   bronchoscopy outweigh the risks at present.  We will plan for bronch
   with BAL (with deep sedation and single dose of paralytics) tomorrow
   morning.  This will provide cell count and good microbiologic samples.
   If nondiagnostic, will need to consider balance of risks/benefits from
   empiric treatment vs. formal biopsy.
   Hypercarbia/respiratory acidosis
   He approximately 10-point rise is pCO2 today is worrisome.  However, I
   suspect it represents relative hypovolemia (occurred after Lasix,
   associated with rise in HR, CVP ~3 pre-Lasix, and pulse pressure
   variation currently quite marked).  Will try fluid challenge (to adjust
   relative [**Name (NI) **] zones); if no response then consider PCV.
   Pneumomediastinum
   No evidence of tension or infection at present.  Echo reassuring
   regarding pericardium.
   Minimize vent pressures as feasible, and follow clinically for now.
   Elevated Intracranial Pressure
   Felt most likely related to malabsorptive hydrocephalus following
   intracranial bleeding.
   Appreciate neurosurgery
s help
   Anticipate change of drain on Friday
   Goal ICP <10, and maintenance of CPP.
   Other issues as per Dr. [**Last Name (STitle) 2792**]
s note from today
   Will discuss with family when available.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-3**] 08:15 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2160-09-04 06:57:00 Physician Resident Progress Note
24 Hour Events:
   - Transferred from CCU to MICU
   - on CPAP PS of 18 most of the day, becoming more hypoxic around 1am
   - changed vent mode to PCV, placed on rate
   - increased sedation -> hypotension
 needed phenylephrine and IVF
   briefly
 then transfused and phenylephrine off
   - received IVF (LR) bolus to CVP of 11 from 5
   - early AM HCT down to 19.4, transfusion ordered for one unit.
   - Antibiotics/steroids discontinued.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2160-9-2**] 10:00 PM
   Vancomycin - [**2160-9-3**] 09:20 AM
   Meropenem - [**2160-9-3**] 02:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-9-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-4**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 96 (64 - 109) bpm
   BP: 126/52(77) {83/32(49) - 140/57(84)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 11 (11 - 13)mmHg
   ICP: 5 (2 - 16) mmHg
                                Total In:
                                                                  2,885 mL
                                                                  1,228 mL
   PO:
                                TF:
                                                                    848 mL
                                                                    236 mL
   IVF:
                                                                  1,857 mL
                                                                    698 mL
   Blood products:
   294 mL
   Total out:
                                                                  1,594 mL
                                                                    593 mL
   Urine:
                                                                  1,535 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
                                                                     59 mL
                                                                     33 mL
   Balance:
                                                                  1,291 mL
                                                                    635 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 436 (436 - 503) mL
   PS : 18 cmH2O
   RR (Set): 32
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.29/70/86.[**Numeric Identifier 143**]/35/4
   Ve: 10 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   317 K/uL
   6.1 g/dL
   186 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.8 mEq/L
   30 mg/dL
   103 mEq/L
   138 mEq/L
   19.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2160-9-3**]  03:30 AM
                             [**2160-9-3**]  04:54 AM
                             [**2160-9-3**]  06:00 AM
                             [**2160-9-3**]  06:28 AM
                             [**2160-9-3**]  09:00 AM
                             [**2160-9-3**]  10:22 AM
                             [**2160-9-3**]  05:38 PM
                             [**2160-9-4**]  12:32 AM
                             [**2160-9-4**]  01:37 AM
                             [**2160-9-4**]  01:55 AM
   WBC
   8.8
   8.6
   Hct
   24.7
   19.4
   Plt
   357
   317
   Cr
   0.6
   0.6
   TCO2
   26
   31
   35
   35
   35
   35
   Glucose
   [**Telephone/Fax (3) 10586**]86
   Other labs: PT / PTT / INR:12.6/31.9/1.1, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:23/38, Alk Phos / T Bili:60/0.4,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:486 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   ASPERGILLUS GALACTOMANNAN ANTIGEN
   B-GLUCAN
   [1][**2160-9-4**] 01:37AM
   PND
   [2][**2160-9-4**] 01:37AM
   PND
   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
                                    Vent
                                   Comment
   [3][**2160-9-4**] 01:55AM
                                     ART
   87
                                   70*[1]
                                    7.29*
                                     35*
                                      4
   [4][**2160-9-4**] 12:32AM
                                     ART
   62*
                                   72*[2]
                                    7.28*
                                     35*
                                      3
   [5][**2160-9-3**] 05:38PM
                                     ART
                                    37.4
                                     /23
   8
                                     60
   81*
                                   69*[1]
                                    7.29*
                                     35*
                                      3
   INTUBATED
                                SPONTANEOU[3]
                                PRESSURE S[4]
   CXR: still with [**Year (4 digits) 10587**] interstitial process, slightly improved from
   [**9-3**]/ film.
   [6][**2160-9-4**]
   Immunology (CMV)
   CMV Viral Load-PENDING
   [7][**2160-9-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {STAPH AUREUS COAG +,
   GRAM NEGATIVE ROD(S)}
   [8][**2160-9-1**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [9][**2160-9-1**]
   BLOOD
   Blood Culture, Routine-PENDING
   [10][**2160-9-1**]
   BLOOD
   Blood Culture, Routine-PENDING
   Assessment and Plan
   70 yo F with a history of CAD with persistent ground glass opacities
   concerning for fibroproliferative ARDS, less likely [**Year (4 digits) 10587**] infection.
   #  Respiratory failure:
   Differential:  fibroproliferative ARDS, atypical infectious processes,
   including viral pneumonias (CMV possible, VZV, RXV, Flu unlikely),
   legionella negative, PCP, [**Name10 (NameIs) 10587**] alveolar hemorrhage, neoplastic
   process
   Regarding ventilation, she is now on pressure control ventilation with
   an increase in FiO2. Keep on low pressures due to pneumomediastinum.
   Wean FiO2 over course of day.  Now needing increased pressure support
   repeat CXR now s/p bronchoscopy for ? PTX.
   - bronchoscopy this morning
   - f/u cultures
   - trend lung compliance
   - f/u CMV viral load
   - f/u fungal markers (glucan)
   # Pneumomediastinum:
   - Following CXRs, hemodynamics
   - Pressure control ventilation
   # Acute Anemia: HCT drop from 24.7 to 19 with ~1.5L of IVF, no clear
   source of bleeding seen (no GIB). Respiratory secretions are more blood
   tinged, though unlikely to account for one unit.
   - add hemolysis studies
   - bronchoscopy/BAL for blood, hemosiderin laden macrophages
   - transfuse <21
   - consider abdominal CT scan
   # Fevers: stopped vanc/meropenem [**9-3**] after 2 week course.
   - monitor fever curve
   - f/u cultures
   - f/u BAL
   # Elevated Intracranial Pressure: Likely resultant from malabsorptive
   hydrocephalus following intracranial bleeding. Appreciate neurosurgical
   consultation service following
   - Continue extraventricular drain, plan to replace on Friday at 12:30.
   - aspirin on hold pending drain change, hold HSQ morning of procedure
   - follow ICP, goal <10.
   # Mental status
 Remains poor, not withdrawing to pain but on
   sedation. Will do daily sedation holiday
   - f/u neurosurgery rec
s, aim to maintain SBP >70 to ensure adequate
   cerebral perfusion
   - reconsult neurology regarding prognostication given mental status
   # Seizure Prophlyaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs. EEG
   not required now as other etiologies more likely for AMS and on
   therapeutic Keppra.
   # Congestive Heart Failure:
   - Can continue maintenance furosemide, but goal is to keep even given
   recent hypotension
   - continue afterload reduction with Lisinopril 10mg po daily
   - continue carvedilol.
   - EF continues to improve.
   # Coronary Artery Disease:  Significant cardiac disease though she has
   currently ruled out for MI.
   - holding asa for anticipation of EVD (drain) revision
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement though will have to discuss since drain is being changed.
   #  Normocytic anemia: HCT stable. Baseline from [**Month (only) 435**] hospitalization
   here was in 20s, however pt with 4 point crit drop on [**8-27**].
   Iron 49, Ferritin 1828, TIBC 176 - anemia of chronic disease picture
   with extremely high ferritin.
   - Transfuse <21
   - maintain active T&S
   - follow daily Hct
   # Scalp hematoma: No evidence of active bleed or infection.
   -Continue wound care
   #  Fractures
   - on fent gtt/versed for pain management.
   #  Depression: Continue prozac
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-3**] 10:19 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   ICP Catheter - [**2160-8-23**] 10:34 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  HOB, bundle, RSBI
   Comments:
   Communication:  Comments: Family meeting this afternoon
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_235%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_236%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_138%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_139%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_140%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2160-09-06 07:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    70 year old woman s/p MVA trauma, multiple fractures and SDH/SAH, s/p
   trach, readmitted form OSH with respiratory failure, MRSA and ESBL
   klebsiella in sputum.  Persistent diffuse ground glass opacities, poor
   lung compliance, difficult to ventilate.  Only mild improvement with
   diuresis, patient with low EF.   Bronchoscopy [**9-3**] shows persistent
   MRSA and klebsiella, although at low colony counts.  Course has been
   complicated by hydrocephalus requiring ventricular drain.
   24 Hour Events:
 OR SENT - At [**2160-9-5**] 01:10 PM
   New ventricular drain placed
 ICP CATHETER - STOP [**2160-9-5**] 02:30 PM
 ICP CATHETER - START [**2160-9-5**] 02:40 PM
 OR RECEIVED - At [**2160-9-5**] 03:00 PM
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-5**] 04:45 PM
   Meropenem - [**2160-9-6**] 05:53 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-9-5**] 08:30 AM
   Midazolam (Versed) - [**2160-9-5**] 02:45 PM
   Fentanyl - [**2160-9-5**] 02:45 PM
   Furosemide (Lasix) - [**2160-9-5**] 04:45 PM
   Other medications:
   RISS, keppra, fluoxetine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-6**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 83 (70 - 88) bpm
   BP: 167/61(100) {94/38(58) - 182/73(113)} mmHg
   RR: 0 (0 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
   CVP: 12 (4 - 206)mmHg
   ICP: 9 (5 - 17) mmHg
   Total In:
                                                                  1,019 mL
                                                                    292 mL
   PO:
   TF:
   IVF:
                                                                    899 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    381 mL
   Urine:
                                                                  1,730 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
                                                                     46 mL
   Balance:
                                                                   -871 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 294 (291 - 294) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 31 cmH2O
   SpO2: 98%
   ABG: 7.37/69/80.[**Numeric Identifier 176**]/32/10
   Ve: 9.5 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Neuro: sedated. Occasional spont movement left arm per nursing
   CV: RRR, no m/r/g
   Resp:
   Abd:soft, NTND
   Extrem: no edema
   Labs / Radiology
   8.4 g/dL
   348 K/uL
   139 mg/dL
   0.5 mg/dL
   32 mEq/L
   5.4mEq/L
   24 mg/dL
   105 mEq/L
   141 mEq/L
   26.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2160-9-4**]  10:07 AM
                             [**2160-9-4**]  12:05 PM
                             [**2160-9-4**]  01:21 PM
                             [**2160-9-4**]  06:27 PM
                             [**2160-9-5**]  03:23 AM
                             [**2160-9-5**]  03:37 AM
                             [**2160-9-5**]  04:01 PM
                             [**2160-9-5**]  11:03 PM
                            [**2160-9-6**]  05:40 AM
                            [**2160-9-6**]  05:51 AM
   WBC
   6.6
   7.6
   Hct
   28
   28
   24.3
   26
   34
   26
   26.7
   Plt
   318
   348
   Cr
   0.6
   0.5
   TCO2
   37
   38
   35
   31
   36
   35
   37
   41
   Glucose
   181
   119
   139
   Other labs: PT / PTT / INR:11.5/26.7/1.0, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:22/49, Alk Phos / T Bili:69/0.1,
   Differential-Neuts:62.1 %, Band:  Lymph:31.4 %, Mono:1.9 %, Eos:4.2 %,
   Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:399 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   ELECTROLYTE & FLUID DISORDER, OTHER
   She is mildly hyperkalemic this morning; would check EKG to ensure no
   peaked T
s and recheck
lytes this afternoon. Bicarb decreased to 30
   with resolution of her respiratory acidosis (with PaCO2s in the 80-90s
   yesterday.)
 INFECTIOUS DISEASE: Vanco
   Vanc and [**Last Name (un) **] had been on for 14 days; stopped on [**9-3**] on transfer from
   the CCU. No e/o further infectious complications.  CMV viral load, BAL
   cultures, galactomannan and beta-glucan pending.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Cannot assess her mental status meaningfully while she is on sedation.
   Will decrease sedation when we are able from a respiratory perspective.
   Currently she remains too tenuous to down-titrate. Keppra for seizure
   prophylaxis.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Goal CVP ~8. She appears to be more volume overloaded today in as that
   her compliance is even lower (down to 7) and her CVP is up to 14-18 (it
   had been [**1-31**] on transfer from the CCU.) She has been on and off Neo
   over the past 24 hours; she may require intermittent pressors while
   attempting to diurese her from her current CVP in an effort to improve
   (as minimal as it may be) her compliance.
 ANEMIA
   Follow H/H. Transfuse for Hgb < 7. No e/o acute bleeding.
 RESPIRATORY FAILURE, ACUTE (ARDS/[**Doctor Last Name 11**])
   She has ARDS based on her PaO2/FiO2 ratio, bilateral infiltrates, and
   no compelling e/o pulmonary edema contributing to her overall
   presentation. She remains very tenuous with a compliance of 7 leading
   to tidal volumes of ~250cc despite a set inspiratory pressure of >30cm
   H2O. She has essentially no reserve in terms of safely increasing her
   inspiratory pressure as she is already above 30cm H2O. Further
   increases will increase her risk of further barotrauma in addition to
   her pneumomediastinum. A pneumothorax would be devastating for her.
   Hopefully, with diuresis her compliance will improve somewhat.
   Otherwise, we will continue supportive care, attempt to minimize
   complications (although her compliance necessitates high airway
   pressures, increasing her risk for barotrauma.)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   20 Gauge - [**2160-9-4**] 04:00 PM
   ICP Catheter - [**2160-9-5**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2160-09-07 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No significant changes yesterday.
   Remained on pressure control ventilation
   Neurosurgery tapped CSF drain, no appreciable e/o infection. cx pending
   Deferring aspirin through weekend per neurosurgery.
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsCardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-6**] 08:00 AM
   Meropenem - [**2160-9-7**] 06:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-9-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-9-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-7**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 80 (76 - 96) bpm
   BP: 99/44(61) {91/40(57) - 188/77(115)} mmHg
   RR: 32 (26 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 11 (0 - 16)mmHg
   ICP: 0 (-2 - 8) mmHg
   Total In:
                                                                  2,746 mL
                                                                    627 mL
   PO:
   TF:
                                                                    464 mL
                                                                    238 mL
   IVF:
                                                                  2,142 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    350 mL
   Urine:
                                                                  1,098 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
                                                                    127 mL
                                                                     40 mL
   Balance:
                                                                  1,521 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 39 cmH2O
   SpO2: 96%
   ABG: 7.37/60/123/31/7
   Ve: 8.4 L/min
   PaO2 / FiO2: 246
   Physical Examination
   General Appearance: Thin
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   330 K/uL
   8.2 g/dL
   160 mg/dL
   0.4 mg/dL
   31 mEq/L
   5.2 mEq/L
   23 mg/dL
   108 mEq/L
   144 mEq/L
   25.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2160-9-5**]  04:01 PM
                             [**2160-9-5**]  11:03 PM
                            [**2160-9-6**]  05:40 AM
                            [**2160-9-6**]  05:51 AM
                            [**2160-9-6**]  09:36 AM
                            [**2160-9-6**]  04:16 PM
                            [**2160-9-6**]  07:50 PM
                            [**2160-9-6**]  09:30 PM
                            [**2160-9-7**]  04:24 AM
                            [**2160-9-7**]  04:36 AM
   WBC
   7.6
   5.6
   Hct
   34
   26
   26.7
   25.2
   Plt
   348
   330
   Cr
   0.5
   0.4
   TCO2
   35
   37
   41
   36
   38
   38
   36
   36
   Glucose
   139
   160
   Other labs: PT / PTT / INR:11.5/26.7/1.0, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:22/49, Alk Phos / T Bili:69/0.1,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:399 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                     Eos
   [1][**2160-9-6**] 12:13PM
                                    0[1]
                                    565*
                                      0
                                      0
                                      0
   [2][**2160-9-6**]
   CSF;SPINAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY
   [3][**2160-9-5**]
   CATHETER TIP-IV
   WOUND CULTURE-PRELIMINARY
   [4][**2160-9-4**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Respiratory Viral Antigen
   Screen-FINAL; VIRAL CULTURE: R/O CYTOMEGALOVIRUS-PRELIMINARY
   [5][**2160-9-4**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {STAPH AUREUS COAG +,
   KLEBSIELLA OXYTOCA}; LEGIONELLA CULTURE-PRELIMINARY; POTASSIUM
   HYDROXIDE PREPARATION-FINAL; Immunoflourescent test for Pneumocystis
   jirovecii (carinii)-FINAL; FUNGAL CULTURE-PRELIMINARY; ACID FAST
   SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY
   [6][**2160-9-4**]
   Immunology (CMV)
   CMV Viral Load-PENDING
   [7][**2160-9-1**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {STAPH AUREUS COAG +,
   KLEBSIELLA OXYTOCA}
   [8][**2160-9-1**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [9][**2160-9-1**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [10][**2160-9-1**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [11][**2160-8-31**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   Assessment and Plan
   Assessment and Plan:
   70 yo F with a history of CAD with persistent ground glass opacities
   concerning for fibroproliferative ARDS, less likely diffuse infection.
   #  Respiratory failure: Likely ARDS in fibroproliferative phase. Also
   with MRSA and Klebsiella found on [**9-4**] BAL
   - continue current vent settings on pressure control ventilation (low
   tidal volumes)
   -day 2 of Vanc/[**Last Name (un) **]
   - follow ABGs
   - f/u cultures
   - trend lung compliance
   - f/u CMV viral load
   - f/u fungal markers (glucan)
   # Pneumomediastinum:
   - Following CXRs, hemodynamics
   - Pressure control ventilation
   # Acute Anemia: HCT drop from 24.7 to 19 with ~1.5L of IVF, no clear
   source of bleeding seen (no GIB). Pt has responded to transfusion of
   one unit with otherwise stable hematocrits.
   - check Hct after OR experience
   - no hemosiderin laden macrophages seen
   - transfuse for Hct <21
   - consider abdominal CT scan if HD unstable
   # Fevers: restarted vanc/meropenem [**9-5**] for 8 day course
   - Check CSF cell count and culutre
   - monitor fever curve
   - f/u cultures
   - f/u BAL
   # Elevated Intracranial Pressure: Likely resultant from malabsorptive
   hydrocephalus following intracranial bleeding. Appreciate neurosurgical
   consultation service following. Drain changed in OR on [**9-5**]
   - Continue extraventricular drain, plan to replace on Friday at 12:30.
   - aspirin on hold pending drain change, holding HSQ
 will restart
   after OR
   - follow ICP, goal <10.
   # Mental status
 Remains poor, not withdrawing to pain but on
   sedation. Will do daily sedation holiday
   - f/u neurosurgery rec
s, aim to maintain SBP >70 to ensure adequate
   cerebral perfusion
   - neuro recs
   - daily wake up
   -f/u old ouwnd tip
   # Seizure Prophlyaxis:  On keppra at 1500 mg [**Hospital1 **] per Neuro recs. EEG
   not required now as other etiologies more likely for AMS and on
   therapeutic Keppra.
   # Congestive Heart Failure:
   - Can continue maintenance furosemide, but goal is to keep even given
   recent hypotension
   - consider diuresis
   - hold captopril / lisinopril
   # Coronary Artery Disease:  Significant cardiac disease though she has
   currently ruled out for MI.
   - holding asa pending neurosurg restart.
   - Holding Plavix 75mg po daily for now given recent drain placement.;
   neurosurg ok to re-start Plavix [**9-6**] for her recent cardiac stent
   placement though will have to discuss since drain is being changed.
   # Scalp hematoma: No evidence of active bleed or infection.
   -Continue wound care
   #  Fractures
   - on fent gtt/versed for pain management.
   #  Depression: Continue prozac
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-6**] 10:45 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   ICP Catheter - [**2160-9-5**] 02:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_307%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_314%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_315%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_316%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_317%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_318%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_319%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_320%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_321%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_322%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_323%22,640,400,50,50,1);

2160-09-09 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -earlier in day hypertensive, required increase sedation
   -had episode around 9pm where she was pulling low TV and was
   hypotensive and put out more from drain, neurosurg notified--NTD--->put
   on neo for low BP, captopril d/ced-->gas transiently looked bad
   Patient unable to provide history: Unresponsive
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-8**] 08:45 AM
   Meropenem - [**2160-9-9**] 06:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-9-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-9-9**] 12:00 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: n/a
   Flowsheet Data as of  [**2160-9-9**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 84 (70 - 94) bpm
   BP: 110/47(68) {78/35(49) - 146/62(91)} mmHg
   RR: 32 (6 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 2 (1 - 13)mmHg
   ICP: 5 (-3 - 12) mmHg
   Total In:
                                                                  2,200 mL
                                                                    649 mL
   PO:
   TF:
                                                                    840 mL
                                                                    239 mL
   IVF:
                                                                  1,265 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  1,433 mL
                                                                    444 mL
   Urine:
                                                                  1,247 mL
                                                                    436 mL
   NG:
   Stool:
   Drains:
                                                                    186 mL
                                                                      8 mL
   Balance:
                                                                    767 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 336 (295 - 357) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 37 cmH2O
   Plateau: 33 cmH2O
   SpO2: 99%
   ABG: 7.40/60/104/34/9
   Ve: 10.5 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Thin
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: + snout reflex, some grimace to nail pressure though
   minimal
   Labs / Radiology
   285 K/uL
   8.2 g/dL
   153 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.8 mEq/L
   23 mg/dL
   107 mEq/L
   143 mEq/L
   25.3 %
   6.1 K/uL
        [image002.jpg]
                            [**2160-9-7**]  09:50 AM
                            [**2160-9-7**]  08:03 PM
                            [**2160-9-7**]  08:44 PM
                            [**2160-9-8**]  04:50 AM
                            [**2160-9-8**]  05:00 AM
                            [**2160-9-8**]  05:16 AM
                            [**2160-9-8**]  09:47 AM
                            [**2160-9-8**]  08:51 PM
                            [**2160-9-8**]  10:19 PM
                            [**2160-9-9**]  03:04 AM
   WBC
   4.9
   6.1
   Hct
   26
   24.6
   26
   29
   32
   25.3
   Plt
   291
   285
   Cr
   0.3
   0.3
   0.4
   TCO2
   37
   36
   37
   37
   38
   39
   Glucose
   130
   141
   188
   153
   Other labs: PT / PTT / INR:12.4/30.7/1.0, CK / CKMB /
   Troponin-T:17/3/0.02, ALT / AST:22/49, Alk Phos / T Bili:69/0.1,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:2.7 mmol/L, Albumin:2.2 g/dL, LDH:399 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Microbiology:   [**9-4**] - CMV Viral Load (Final [**2160-9-8**]):
         3,760 copies/ml.
         Performed by PCR.
         Detection Range: 600 - 100,000 copies/ml.
   Assessment and Plan
   70 yo F with a history of CAD, s/p tracheostomy following MVA with
   respiratory failure in the setting of bilateral opacities concerning
   for fibroproliferative ARDS, less likely diffuse infection.
   #  Respiratory failure: Likely ARDS in fibroproliferative phase. Still
   evidence of low compliance (but improved) with elevated peak pressures;
   also has MRSA (9000 cfu/ml) and Klebsiella ([**2150**] cfu/ml) on [**9-4**] BAL,
   as well as sputum Cx [**9-1**]; fungal markers negative
   -cont vanc/[**Last Name (un) 614**] day 5 (last day [**2160-9-12**])
   -cont low Vt ventilation, will lower driving pressure to reduce peak
   pressures
   -wean sedation
   -f/u repeat cmv viral load
   #Hypotension
 multifactorial, most  attributable sedation, but cannot
   exclude neurogenic shock from CNS process or septic shockk from VAP;
   currently hemodynamically stable off pressors
   -cautious fluid resuscitation given prior difficulty with
   oxygenation/ventilation in the setting of mild volume overload (CVP
   goal [**1-31**])
   -restart neo gtt if MAP<65
   -cont hold BB, ACEi
   # Elevated Intracranial Pressure: ICP at goal <10; attributed to
   malabsorptive hydrocephalus following intracranial bleeding. Drain
   changed in OR on [**9-5**]
   - continue extraventricular drain, replaced on [**9-5**]
   - restarted aspirin
   - maintain ICP, goal <10
   - keppra at 1500 mg [**Hospital1 **]
   - discuss with neurosurg re role for VP shunt
   # Mental status: primal reflexes on exam
   -f/u CSF Cx data
   -f/u neurosurgery recs, aim to maintain SBP >70 to ensure adequate
   cerebral perfusion
   -reduce sedation, must balance with ventilator dyssynchrony
   -appreciate neuro & neurosurg recs
   # Pneumomediastinum:
   - Following CXRs, hemodynamics
   - reduce peak pressures, as above
   # Macrocytic anemia: Hct stable
   - daily Hct
   - transfuse for Hct <21
   - guiaic all stools
   .
   # Coronary Artery Disease:  Significant cardiac disease though she has
   currently ruled out for MI.
   - restart aspirin
   - Holding Plavix 75mg po daily for now given recent drain placement
   # Scalp hematoma: No evidence of active bleed or infection.
   -Continue wound care
   #  Fractures
   - on fent gtt/versed for pain management.
   #  Depression: d/c
d prozac
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-8**] 10:42 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   ICP Catheter - [**2160-9-5**] 02:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2160-09-13 10:47:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Low grade fevers
   Weaning versed, fentanyl
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-12**] 08:00 PM
   Meropenem - [**2160-9-13**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 90 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-9-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2160-9-13**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 89 (83 - 106) bpm
   BP: 108/43(64) {91/39(58) - 161/62(96)} mmHg
   RR: 36 (22 - 45) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
   CVP: 11 (9 - 20)mmHg
   ICP: 10 (0 - 10) mmHg
   Total In:
                                                                  1,707 mL
                                                                    674 mL
   PO:
   TF:
                                                                    856 mL
                                                                    379 mL
   IVF:
                                                                    781 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,251 mL
                                                                    439 mL
   Urine:
                                                                  1,130 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
                                                                     44 mL
   Balance:
                                                                    456 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   PC : 25 cmH2O
   PS : 5 cmH2O
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.45/51/68/30/9
   Ve: 10 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   244 K/uL
   150 mg/dL
   0.4 mg/dL
   30 mEq/L
   5.3 mEq/L
   18 mg/dL
   103 mEq/L
   141 mEq/L
   22.9 %
   7.9 K/uL
        [image002.jpg]
                            [**2160-9-11**]  09:28 PM
                            [**2160-9-11**]  10:00 PM
                            [**2160-9-11**]  11:00 PM
                            [**2160-9-12**]  05:07 AM
                            [**2160-9-12**]  05:14 AM
                            [**2160-9-12**]  11:08 AM
                            [**2160-9-12**]  06:29 PM
                            [**2160-9-13**]  03:17 AM
                            [**2160-9-13**]  03:31 AM
                            [**2160-9-13**]  05:57 AM
   WBC
   7.3
   7.9
   Hct
   25
   23.2
   23.2
   22.9
   Plt
   239
   244
   Cr
   0.3
   0.4
   TropT
   0.27
   0.24
   TCO2
   39
   36
   38
   40
   37
   37
   Glucose
   204
   150
   Other labs: PT / PTT / INR:12.5/29.0/1.1, CK / CKMB /
   Troponin-T:15/3/0.24, ALT / AST:22/49, Alk Phos / T Bili:69/0.1,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:399 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   70yo woman with a h/o CAD s/p CABG x 2 who was admitted to an OSH this
   summer after a MVC with poly-trauma, including SAH/SDH w/small midline
   shift and multiple orthopedic injuries, now with ARDS of unclear
   etiology (possibly MRSA and Klebsiella pneumonia.)
 INFECTIOUS DISEASE
   Vanc and [**Last Name (un) **] had been on for 14 days; stopped on [**9-3**] on transfer from
   the CCU. CMV viral load was 3700 which is of unclear significance
   will repeat; BAL revealed persistent Staph and Klebsiella in her lower
   respiratory tract cultures and will continue Vanc and Meropenem for
   this (last day is today - [**9-12**].) Galactomannan and beta-glucan are
   negative.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Continue to wean her Fentanyl and Versed with Zyprexa for break-through
   agitation / anxiety. Her underlying mental status remains unclear given
   she has not been evaluated off of sedation.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   She did not do well with a CVP >8; maintain a low CVP and diurese as
   needed / as she is able.
 ANEMIA
   Follow H/H. Transfuse for Hgb < 7. No e/o acute bleeding.
 HYPOTENSION
   She had transient hypotension last night in the setting of her
   respiratory decompensation. She required pressors for several hours
   overnight, but is currently off pressors. Her physiology is likely
   volume depletion exacerbated by bolus sedation as she responded to
   volume repletion and she has weaned off pressors with minimal other
   intervention.
 RESPIRATORY FAILURE, ACUTE (ARDS/[**Doctor Last Name 11**])
   She had an acute decompensation last night in the setting of being
   turned, it was transient and her pulmonary physiology is actually
   improved over the past week. Her compliance (as measured by the
   ventilator) has improved from 7 to 14 (several days ago) to 40 today.
   It
s unclear why her pulmonary compliance is improving; regardless, we
   will continue to attempt to decrease her driving pressure with a short
   term goal of decreasing her peak pressure to <30cm H2O and a longer
   term goal of decreasing her with a goal of liberating her from the
   vent.
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2160-9-13**] 09:11 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-8-23**] 12:30 PM
   Multi Lumen - [**2160-8-30**] 07:19 PM
   ICP Catheter - [**2160-9-5**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPPI
   VAP: HOB chlorhex
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:

2160-09-14 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2160-9-13**] 03:17 PM
 ARTERIAL LINE - STOP [**2160-9-13**] 03:24 PM
 FEVER - 101.5
F - [**2160-9-14**] 03:00 AM
   -Off sedation for 3 hours, no change in mental status, became
   tachypneic after aline placement and restarted on sedation
   -Aline changed
   -Driving pressure weaned to 18, had further tachypneic, gasping-like,
   with increased work of breathing and desaturation, driving pressure
   increased to 25 (FiO2 increased to 100%) and sedation increased.  ABG
   7.36/61/183.
   -Restarted pressors
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-13**] 11:23 AM
   Meropenem - [**2160-9-14**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-14**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.1
C (98.8
   HR: 88 (85 - 126) bpm
   BP: 110/52(74) {84/38(55) - 172/74(103)} mmHg
   RR: 19 (19 - 44) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
    CVP: 13 (5 - 20)mmHg
   ICP: 5 (3 - 16) mmHg
   Total In:
                                                                  1,659 mL
                                                                    466 mL
   PO:
   TF:
                                                                    845 mL
                                                                    249 mL
   IVF:
                                                                    664 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  1,183 mL
                                                                    370 mL
   Urine:
                                                                  1,095 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
                                                                     88 mL
                                                                     30 mL
   Balance:
                                                                    476 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   PS : 20 cmH2O
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: 7.31/72/117/29/7
   Ve: 11 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Crackles : anteriorly, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   259 K/uL
   8.2 g/dL
   200 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.9 mEq/L
   18 mg/dL
   103 mEq/L
   141 mEq/L
   25.5 %
   9.5 K/uL
        [image002.jpg]
                            [**2160-9-12**]  11:08 AM
                            [**2160-9-12**]  06:29 PM
                            [**2160-9-13**]  03:17 AM
                            [**2160-9-13**]  03:31 AM
                            [**2160-9-13**]  05:57 AM
                            [**2160-9-13**]  06:19 PM
                            [**2160-9-14**]  03:12 AM
                            [**2160-9-14**]  03:21 AM
                            [**2160-9-14**]  05:39 AM
                            [**2160-9-14**]  06:46 AM
   WBC
   7.9
   9.5
   Hct
   23.2
   22.9
   25.5
   Plt
   244
   259
   Cr
   0.4
   0.3
   TCO2
   40
   37
   37
   36
   36
   38
   38
   Glucose
   150
   200
   Other labs: PT / PTT / INR:12.6/27.5/1.1, CK / CKMB /
   Troponin-T:15/3/0.24, ALT / AST:22/49, Alk Phos / T Bili:69/0.1,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:399 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   70F with CAD, s/p tracheostomy following MVA admitted with hypoxemic
   respiratory failure in the setting of ARDS, VAP with a hospital course
   complicated by encephalopathy and intracranial hypertension s/p
   temporary ventriculostomy drain placement.
   #Hypoxemic respiratory failure: Due to ARDS.  Appears to have worsening
   pulmonary edema.  Repeat sputum Cx with GPC pairs/clusters c/w prior
   MRSA PNA; lack of respiratory drive, mental status, low compliance
   remain barriers to weaning.  Viral cultures suggestive of possible CMV
   infection.
   -BAL for viral culture looking for CMV
   -cont vanc/[**Last Name (un) 614**] for VAP given recurrent fever (day 9 of abx)
   -goal peak pressures goal<30
   -Lasix gtt
   -Consider dig loading for increased inotropy
   -Recheck ECHO
   -Continue to wean sedation as tolerated by minute ventilation, continue
   bolus sedation/anxiolytics (zyprexa) as gradual replacement for
   continuous infusion
   -cautious with high PEEP in the setting of pneumomediastinum
   -ID consult re: CMV
   -consider gancyclovir for CMV
   #Hypotension
 Became acutely hypotensive overnight on [**9-11**], felt to
   be due to bolus sedation and increased PEEP during respiratory
   distress, briefly required neo gtt (now off); may be attributable to
   septic shock from VAP and/or neurogenic shock from underlying CNS
   process
   -restart neo gtt for MAP<55
   -f/u culture data (blood, sputum, urine, CSF)
   -replaced A-line ([**9-13**])
   -cautious fluid resuscitation given prior difficulty with
   oxygenation/ventilation in the setting of mild volume overload (CVP
   3-5)
   -cont hold BB, ACEi
   # Elevated Intracranial Pressure: ICP at goal <10; attributed to
   malabsorptive hydrocephalus following intracranial bleeding. Drain
   changed in OR on [**9-5**].  Blood-tinged CSF drainage with subsequent CT
   [**9-11**] showing small IVH of unclear clinical significance
   -appreciate neurosurg involvement
   -plan for VP shunt when infectious issues resolved (potentially OR
   [**9-15**] or [**9-16**])
   -MRI ordered to eval for diffuse axonal injury but could not tolerate
   traveling to study due to low compliance & tidal volumes on vent
   -maintain ICP, goal <10
   -keppra at 1500 mg [**Hospital1 **]
   - viral culture CSF for CMV
   #Encephalopathy - difficult to assess given sedation requirements;
   reactive pupils but has some primitive reflexes
   - Continue to wean sedation as tolerated by minute ventilation
   - Neurosurg following
   - Will try for MRI again if patient stable
   - viral culture for CMV
   # Macrocytic anemia: Hct low but stable
   - daily Hct
   -would defer transfusion unless Hct<21 assuming adequate oxygenation
   can be achieved with increases in PEEP/FiO2
   - guaiac all stools
   #CAD
   - held aspirin on [**9-12**] for possible neurosurgery
   - holding plavix per neurosurg
   #  Depression:
   - restarted fluoxetine
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-13**] 09:11 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-30**] 07:19 PM
   ICP Catheter - [**2160-9-5**] 02:40 PM
   Arterial Line - [**2160-9-13**] 03:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2160-09-14 09:05:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2160-9-13**] 03:17 PM
 ARTERIAL LINE - STOP [**2160-9-13**] 03:24 PM
 FEVER - 101.5
F - [**2160-9-14**] 03:00 AM
   Increasing Resp Distress after a trial off sedation. Back on PCV
   Restarted on Neo
   Febrile
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aches;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-13**] 11:23 AM
   Meropenem - [**2160-9-14**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2160-9-14**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.1
C (97
   HR: 79 (79 - 126) bpm
   BP: 124/56(82) {84/38(55) - 172/74(103)} mmHg
   RR: 18 (18 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.4 kg (admission): 65.3 kg
   Height: 64 Inch
   CVP: 12 (5 - 20)mmHg
   ICP: 5 (3 - 16) mmHg
   Total In:
                                                                  1,659 mL
                                                                    591 mL
   PO:
   TF:
                                                                    845 mL
                                                                    317 mL
   IVF:
                                                                    664 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,183 mL
                                                                    370 mL
   Urine:
                                                                  1,095 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
                                                                     88 mL
                                                                     30 mL
   Balance:
                                                                    476 mL
                                                                    221 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+/PSV
   PS : 20 cmH2O
   RR (Set): 27
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.31/72/117/29/7
   Ve: 11 L/min
   PaO2 / FiO2: 195
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   259 K/uL
   200 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.9 mEq/L
   18 mg/dL
   103 mEq/L
   141 mEq/L
   25.5 %
   9.5 K/uL
        [image002.jpg]
                            [**2160-9-12**]  11:08 AM
                            [**2160-9-12**]  06:29 PM
                            [**2160-9-13**]  03:17 AM
                            [**2160-9-13**]  03:31 AM
                            [**2160-9-13**]  05:57 AM
                            [**2160-9-13**]  06:19 PM
                            [**2160-9-14**]  03:12 AM
                            [**2160-9-14**]  03:21 AM
                            [**2160-9-14**]  05:39 AM
                            [**2160-9-14**]  06:46 AM
   WBC
   7.9
   9.5
   Hct
   23.2
   22.9
   25.5
   Plt
   244
   259
   Cr
   0.4
   0.3
   TCO2
   40
   37
   37
   36
   36
   38
   38
   Glucose
   150
   200
   Other labs: PT / PTT / INR:12.6/27.5/1.1, CK / CKMB /
   Troponin-T:15/3/0.24, ALT / AST:22/49, Alk Phos / T Bili:69/0.1,
   Differential-Neuts:62.1 %, Band:10.0 %, Lymph:31.4 %, Mono:1.9 %,
   Eos:4.2 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:399 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Increased Intracranial Pressure
 CONSTIPATION (OBSTIPATION, FOS)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
   70yo woman with a h/o CAD s/p CABG x 2 who was admitted to an OSH this
   summer after a MVC with poly-trauma, including SAH/SDH w/small midline
   shift and multiple orthopedic injuries, now with ARDS of unclear
   etiology (possibly MRSA and Klebsiella pneumonia.)
 HYPOTENSION : currently off pressors. Her physiology is likely volume
   depletion exacerbated by bolus sedation as she responded to volume
   repletion and she has weaned off pressors with minimal other
   intervention.
 RESPIRATORY FAILURE, ACUTE (ARDS/[**Doctor Last Name 11**]) Pulmonary physiology is
   actually improved over the past week. Her compliance is slowly
   improving. Decrease her driving pressure with a short term goal of
   decreasing her peak pressure to <30cm H2O and a longer term goal of
   decreasing her with a goal of liberating her from the vent.
 INFECTIOUS DISEASE : Vanc and [**Last Name (un) **] had been on for 14 days; stopped
   on [**9-3**] on transfer from the CCU. CMV viral load was 3700 which is of
   unclear significance repeat negative.  BAL with cytopathic changes but
   at this piunt would not Rx with anti virals and complete ABX course.
 ALTERED MENTAL STATUS (NOT DELIRIUM): in setting of ICH and sedation,
   with periods looked like acute delirium. Repeat imaging shows small
   bleed, IUCP stable. Wean sedatin and follow clinical exam.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC: She did not do well
   with a CVP >8; maintain a low CVP and diurese as needed / as she is
   able.
 ANEMIA : Follow H/H. Transfuse for Hgb < 7. No e/o acute bleeding.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-9-13**] 09:11 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-8-30**] 07:19 PM
   ICP Catheter - [**2160-9-5**] 02:40 PM
   Arterial Line - [**2160-9-13**] 03:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: